2174-03-10 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AICD fired
   24 Hour Events:
 URINE CULTURE - At [**2174-3-9**] 09:00 PM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2174-3-9**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2174-3-10**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-10**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.8
   HR: 104 (102 - 117) bpm
   BP: 106/45(62) {106/38(62) - 155/70(86)} mmHg
   RR: 23 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    571 mL
                                                                    101 mL
   PO:
             TF:
   IVF:
                                                                    571 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    370 mL
   Urine:
                                                                    490 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -49 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Face tent 35%
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Alert, oriented, NAD
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Tachycardic, regular rhythm, normal s1 and s2.
   Respiratory / Chest: (Breath Sounds: scattered rhonchi )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 2+
   Musculoskeletal: soft tissue prominence over right knee, elbow effusion
   on right and left
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   162 K/uL
   8.8 g/dL
   277 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.7 mEq/L
   65 mg/dL
   104 mEq/L
   133 mEq/L
   28.1 %
   8.4 K/uL
        [image002.jpg]
                             [**2174-3-9**]  08:22 PM
                             [**2174-3-10**]  05:18 AM
   WBC
   11.1
   8.4
   Hct
   30.2
   28.1
   Plt
   179
   162
   Cr
   1.6
   1.6
   TropT
   0.06
   0.05
   Glucose
   243
   277
   Other labs: PT / PTT / INR:13.4/36.0/1.1, CK / CKMB /
   Troponin-T:40//0.05, Lactic Acid:1.5 mmol/L, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL, PO4:4.5 mg/dL; TSH 0.73, CRP > 300, ESR 104, uric acid 9.1,
   urine Legionella negative
   .
   [**2174-3-10**] CXR: FINDINGS: In comparison with the study of [**3-9**], there is
   again enlargement of the cardiac silhouette in a patient with ICD
   device extending to the apex of the cardiac silhouette in a patient
   with ICD device extending to the apex of the right ventricle. The
   opacification in the retrocardiac region has somewhat increased. This
   could reflect atelectasis, though the possibility of a supervening
   pneumonia cannot be excluded. Some indistinctness of vessels raises the
   possibility of increasing pulmonary venous pressure. Intact midline
   sternal sutures remain in place.
   Assessment and Plan
   Assessment and Plan: This is a 78 y/o M h/o CAD, CHF, and recently
   diagnosed colon cancer who presents with A. Fib with RVR and
   bacteremia.
   .
   # Fever/bacteremia:  Blood cultures from OSH became positive quickly.
   Source unclear currently.  Not convincing for pneumonia, but cannot
   definitely rule out.  Another possibility is bacteremia secondary to
   Strep bovis given recent diagnosis of colon cancer.  ESR and CRP are
   elevated.
   - PA and LAT CXR today to assess for retrocardiac opacity
   - TTE to assess for vegetation
   - surveillance cultures
   - vanco/zosyn given residence in nursing home and GPC bacteremia.
   - consider joint tap of right elbow if fever/bacteremia persists, but
   at this time joint exam is not c/w septic arthritis.
   .
   # Tachycardia: A. Fib with RVR
 appears to be a new diagnosis for this
   patient.  Will ask EP to interrogate ICD to determine how recent in
   onset this problem is.  [**Name2 (NI) **] is unlikely to be a candidate for
   coumadin given recent GI bleed and colon cancer, but if afib new in
   onset, may be a candidate for cardioversion.  Patient has ruled out for
   an MI.
   - transition from diltiazem gtt to home regimen of PO metoprolol
   - Recommend interrogate pacer to eval for timing of onset of A. Fib.
   - Consider cards c/s for TEE and cardioversion
   .
   # Tachypnea/hypoxemia: Appears to be subacute exacerbation with decline
   over past 3-4 weeks.  No clear evidence of pneumonia by CXR although
   possible posterobasilar infiltrate.  Urinary Legionella antigen
   negative.   Lactate mildly elevated on presentation, but lower now
   after fluid resuscitation.  Some evidence for COPD exacerbation by
   history and in setting of steroid taper, but does not explain
   bacteremia and new A. Fib with RVR.  PE is a reasonable consideration
   in this setting but V/Q low probability.  [**Month (only) 11**] represent mild diastolic
   dysfunction [**2-7**] to a. fib with RVR causing pulmonary edema.  Lastly
   would consider aspiration.
   - ECHO
   - Antibiotics
   - nebulizers
   - sputum culture, wean O2 as tolerated.
   .
   # Hemodynamics/Volume: Patient appeared underresuscitated on
   presentation, but adequately resuscitated currently.
   - check albumin, consider UE Ultrasound for DVT, LE assymetry likely
   chronic [**2-7**] SVG from CABG.
   - consider lasix today to mobilize excess fluid off
   .
   # ARF: Likely pre-renal, previous baseline 1.3-1.5 at [**Hospital1 1**] [**Location (un) 78**],
   check Ua to ensure no active sediment.
   - check Ua, Urine lytes
   - Anticipate that controlling A. Fib and low dose lasix will assist
   with forward flow and renal perfusion.
   - renally dose home meds
   .
   # Bursitis/Gout: ?septic joint, most changes appear chronic, no clear
   source for infection.  ESR and CRP markedly elevated.
   - Pulse steroids
   - consult rheum.
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - obtain outpatient records.
   .
   # Anemia: Likely fe deficiency from colon cancer.
   - continue iron replacement
   - obtain outpatient records.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns
   .
   # Hyperglycemia: no h/o diabetes by chart.  Will check A1c given
   hyperglycemia.  Cover with humalog sliding scale q6h for now.
   - f/u A1c
   .
   # Glaucoma: continue eye drops,
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, NPO for now.
   .
   # Prophylaxis: Subcutaneous heparin, outpatient PPI for GERD
   .
   # Access: peripherals x2
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-9**] 07:12 PM
   20 Gauge - [**2174-3-9**] 09:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-03-10 09:33:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   Acute Renal Failure
   Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with well controlled A-fib through this morning
   24 Hour Events:
 URINE CULTURE - At [**2174-3-9**] 09:00 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-10**] 04:00 AM
   Morphine Sulfate - [**2174-3-10**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2174-3-10**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.8
   HR: 104 (102 - 117) bpm
   BP: 122/47(61) {106/38(61) - 155/70(86)} mmHg
   RR: 26 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    571 mL
                                                                    139 mL
   PO:
             TF:
   IVF:
                                                                    571 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    370 mL
   Urine:
                                                                    490 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -49 mL
                                                                   -231 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   162 K/uL
   277 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.7 mEq/L
   65 mg/dL
   104 mEq/L
   133 mEq/L
   28.1 %
   8.4 K/uL
        [image002.jpg]
                             [**2174-3-9**]  08:22 PM
                             [**2174-3-10**]  05:18 AM
   WBC
   11.1
   8.4
   Hct
   30.2
   28.1
   Plt
   179
   162
   Cr
   1.6
   1.6
   TropT
   0.06
   0.05
   Glucose
   243
   277
   Other labs: PT / PTT / INR:13.4/36.0/1.1, CK / CKMB /
   Troponin-T:40//0.05, Lactic Acid:1.5 mmol/L, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL, PO4:4.5 mg/dL
   Imaging: V/Q--Low probability
   CXR-No focal infiltrate noted--mild suggestion of pulmonary vascular
   congestion.
   Microbiology: Legionella Ag-Negative
   GPC's in P+C in blood culture bottles found within 12 hours after draw.
   Assessment and Plan
   78 yo male admit from [**Hospital 78**] Campus of [**Hospital1 1**] where he was admitted
   following AICD firing x4.  At [**Location (un) **] patient found to have significant
   fever and was given Vanco/CTX/Zosyn/Azithro and was then transferred to
   [**Hospital1 1**] for further evaluation of possible PE based upon [**Last Name (un) 4546**] clinical
   suspicion.  V/Q has been read as low probability which is reassuring.
   He has initial blood culture results returning positive and in the
   setting of recent diagnosis of colon CA certainly gut flora
   translocation is a leading source for presentation with
   fevers/chills/blood culture positive.
   Following arrival--patient with Diltiazem required for control of A-Fib
   with RVR following initial presentation with sinus rhythm.
   1)Sepsis
Likley GPC from gut source with dissemination.  He has no
   clear murmur on my exam this morning but has newly evolved A-Fib and
   does have what looks like moderate pulmonary vascular congestion and
   elevated BNP.
   -ECHO
   -Vanco/Zosyn
   -Follow joint exam but unlikely to be septic foci
no erythema but does
   have fluid
   -Follow up culture results
   2)Atrial Fibrillation-
   -Lopressor restart
   -Hold any anticoagulation as colon CA and risk of bleeding significant
   -AICD firing was likely related to A-fib and RVR by report
   -Would favor TEE prior to cardioversion
   3) CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION-
   -Continue prednisone dosing for Gout but may be associated benefit.
   -Continue with nebs
   -Move to negative fluid balance as possible
   -Would favor lateral film to evaluate possible retrocardiac opacity
   4)Acute Renal Failure-
   -Check FeNa
   -Hope to be able to move to diuresis when function stabilized
   5)Gout-
   -Rheum consult
   6)Colon CA-
   -Will have to defer any further staging eval for the moment but return
   to priority when stable.
   ICU Care
   Nutrition: Po diet when stable resp status
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-3-9**] 07:12 PM
   20 Gauge - [**2174-3-9**] 09:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2174-03-12 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AICD firing, bacteremia
   24 Hour Events:
 INVASIVE VENTILATION - START [**2174-3-11**] 11:51 AM
 ARTERIAL LINE - START [**2174-3-11**] 12:37 PM
 MULTI LUMEN - START [**2174-3-11**] 04:05 PM
   #Intubated for multiple procedures.
   #A line and central line placed.
   #TEE - no clot or vegetations.
   #Cardioversion not performed as patient became brady to 50 at V-paced
   rhythm following cardioversion; K = 6.0; NaHCO3, D50, & insulin given
   with return of NSR @ 90.  EP reset pacer to rate of 60.
   #Rheum removed 45 cc of turbulent fluid from L knee and 8 cc from R
   knee. 0.5cc pus removed from R wrist.
   #Micro - R wrist fluid growing 3+GPCs in pairs. R & L knee gram stains
   negative for organisms.
   #Rheum recs: SoluMedrol 16mg daily for gout
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2174-3-12**] 04:26 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-12**] 04:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-12**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 73 (51 - 131) bpm
   BP: 133/46(74) {96/32(-8) - 157/66(79)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,761 mL
                                                                  2,036 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  1,561 mL
                                                                  2,006 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    170 mL
   Urine:
                                                                    980 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    781 mL
                                                                  1,866 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/39/177/25/0
   Ve: 10 L/min
   PaO2 / FiO2: 354
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Tachycardic, regular rhythm, normal s1 and s2. [**2-11**]
   systolic murmur at LUSB
   Respiratory / Chest: (Breath Sounds: coarse )
   Abdominal: Soft, decreased bowel sounds, winces with abdominal
   palpation
   Extremities: Right: 1+, Left: 2+
   Musculoskeletal: soft tissue prominence over right knee, elbow effusion
   on right and left; pain with movement of any extremity
   Skin:  Not assessed
   Neurologic: sedated
   Labs / Radiology
   140 K/uL
   7.8 g/dL
   234 mg/dL
   3.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   114 mg/dL
   103 mEq/L
   136 mEq/L
   25.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2174-3-10**]  10:00 AM
                             [**2174-3-10**]  03:51 PM
                             [**2174-3-10**]  04:00 PM
                             [**2174-3-11**]  03:41 AM
                             [**2174-3-11**]  12:39 PM
                             [**2174-3-11**]  02:25 PM
                             [**2174-3-11**]  10:48 PM
                             [**2174-3-12**]  01:15 AM
                             [**2174-3-12**]  03:15 AM
                             [**2174-3-12**]  06:33 AM
   WBC
   9.5
   10.8
   7.4
   Hct
   28.0
   28.2
   25.1
   Plt
   170
   145
   140
   Cr
   1.8
   2.1
   2.9
   TCO2
   22
   20
   23
   25
   Glucose
   [**Telephone/Fax (3) 4605**]34
   287
   Other labs: PT / PTT / INR:15.3/38.8/1.4, Lactic Acid:1.5 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.7 mg/dL, PO4:6.9 mg/dL
   Urine Urea 373, creat 75, Na 30, Osm 353; FENa 0.85%, FEUrea 13%
   [**2174-3-11**] joint taps: R wrist gram stain
 3+GPCs; L knee 114,000 WBC, no
   organisms on gram stain; R knee 35,000 WBC, crystals, no organisms
   visible on gram stain
   Assessment and Plan
   Assessment and Plan: This is a 78 y/o M h/o CAD, CHF, and recently
   diagnosed colon cancer who presents with A. Fib with RVR and
   bacteremia.
   .
   # Fever/bacteremia:  Blood cultures from [**Location (un) 78**] growing MSSA.  Source
   unclear. ESR and CRP are markedly elevated and patient has septic
   joints as well.  Presentation not convincing for pneumonia, but cannot
   definitely rule out.  LAT CXR not of high enough quality to visualize
   retrocardiac opacity.  ID recommended CT torso, however, patient
   creatinine is rapidly rising and contrast at this time is likely to
   result in further kidney injury.  Will defer bronchoscopy at present as
   patient has minimal secretions while intubated and no significant
   respiratory symptoms prior to intubation.  TEE yesterday was negative
   for vegetations on the valves and pacer lead.
   - daily surveillance cultures
   - d3 nafcillin for MSSA bacteremia (Day 1 = [**2174-3-10**])
   - pretreat with NaHCO3 for possible CT torso in the next day or two
   .
   # Septic arthritis / gout: Patient has demonstrable septic arthritis in
   right wrist and left knee in addition to gouty arthritis.  Other joints
   may be affected as well.  No fluid could be aspirated from the left
   olecranon bursa.  Rheumatology removed pus from right wrist and turbid
   fluid from both knees yesterday.  Right wrist and left knee appear to
   be the most affected joints and likely need washout.  Assistance and
   recs from ortho and rheum are much appreciated.
   - stopping colchicine giving rising creatinine
   - solumedrol 16 mg daily per rheum for gout; needs slow taper
   - ortho to take to OR for washout later today
   .
   # Tachypnea/hypoxemia: Appears to be subacute exacerbation with decline
   over past 3-4 weeks.  No clear evidence of pneumonia by CXR although
   possible posterobasilar infiltrate.  Urinary Legionella antigen
   negative.   Lactate mildly elevated on presentation, but lower after
   fluid resuscitation.  Some evidence for COPD exacerbation by history
   and in setting of steroid taper, but does not explain bacteremia and
   new A. Fib with RVR.  V/Q scan with low probability for PE.  [**Month (only) 11**]
   represent mild diastolic dysfunction [**2-7**] to a. fib with RVR causing
   pulmonary edema.  Lastly would consider aspiration.  Patient electively
   intubated on [**3-11**] to perform multiple procedures.  Will keep intubated
   as patient is going to OR today.  Will discuss with ortho whether
   additional washout is planned in near future and patient should remain
   intubated.
   - Antibiotics
   - nebulizers
   - sputum culture, wean O2 as tolerated.
   .
   # ARF: Likely pre-renal as patient appeared underresuscitated on
   presentation.  Previous baseline 1.3-1.5 at [**Hospital1 1**] [**Location (un) 78**]. LOS I/Os
   documentation
 includes 4L patient received prior to arriving in the
   ICU.  Patient had some low urine output overnight and was bolused 1L
   once.  Bolused another 1L NS this am.  No evidence of UTI currently.
   Urine lytes consistent with pre-renal etiology
   - Renal ultrasound to assess for intrinsic renal disease, abscess in
   the setting of bacteremia
   - renally dose meds (decrease nafcillin to 2 g Q6H if creatinine >
   4.0)
   - D5NaHCO3 at 75 cc/hr for maintenance fluid as well as pre-treatment
   for CT torso.
   - additional NS boluses prn
   .
   # Tachycardia: A. Fib with RVR
 appears to be a new diagnosis for this
   patient.  Likely not a candidate for coumadin given recent GI bleed and
   colon cancer.  Patient has ruled out for an MI.  Now off dilt drip and
   on PO metoprolol TID.  On reduced amnio dose per EP recs.  Had TEE on
   [**3-11**] that showed no clot.  Patient converted to NSR post-TEE in the
   setting of hyperkalemia and has remained in NSR after electrolyte
   correction.  Appreciate assistance from EP.
   - notify EP when patient stable and leaving the unit to repeat
   assessment of his device (note they changed his baseline pacing rate to
   60 bpm on [**3-11**]).
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - obtain outpatient records.
   .
   # Anemia: Likely fe deficiency from colon cancer.
   - continue iron replacement
   - obtain outpatient records.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Will cover with
   humalog sliding scale q6h for now given steroids.
   .
   # Glaucoma: continue eye drops,
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, NPO for now as going for surgery; will
   need to start tube feeds within the next day or two.
   .
   # Prophylaxis: Subcutaneous heparin, outpatient PPI for GERD
   .
   # Access: peripherals x2; A-line ([**2174-3-11**]), and R IJ central line
   ([**2174-3-11**])
   .
   # Code: Full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-3-9**] 09:40 PM
   Arterial Line - [**2174-3-11**] 12:37 PM
   Multi Lumen - [**2174-3-11**] 04:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-03-13 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AICD firing, bacteremia
   24 Hour Events:
 ULTRASOUND - At [**2174-3-12**] 02:00 PM
 OR SENT - At [**2174-3-12**] 04:30 PM
 OR RECEIVED - At [**2174-3-12**] 06:30 PM
 STOOL CULTURE - At [**2174-3-12**] 08:00 PM
   for C-diff.
 BLOOD CULTURED - At [**2174-3-13**] 03:30 AM
   - ortho washed out both knees, R wrist, both elbows, placed drains -
   all joints tapped are gram stain +
   - dressings contaminated by stool post-op (L>R), ortho notified
   - fluid boluses for urine output
   - renal ultrasound with evidence of R hydronephrosis
   - 1 unit PRBC transfusion this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2174-3-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-12**] 09:00 PM
   Morphine Sulfate - [**2174-3-13**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-13**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 88 (66 - 89) bpm
   BP: 99/41(60) {90/39(56) - 139/51(77)} mmHg
   RR: 27 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 10 (10 - 15)mmHg
   Total In:
                                                                  6,638 mL
                                                                    843 mL
   PO:
   TF:
   IVF:
                                                                  6,578 mL
                                                                    843 mL
   Blood products:
   Total out:
                                                                    907 mL
                                                                    117 mL
   Urine:
                                                                    907 mL
                                                                    117 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,731 mL
                                                                    726 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 551 (550 - 551) mL
   Vt (Spontaneous): 397 (397 - 499) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/46/137/26/-1
   Ve: 11.5 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Tachycardic, regular rhythm, normal s1 and s2. [**2-11**]
   systolic murmur at LUSB
   Respiratory / Chest: (Breath Sounds: coarse )
   Abdominal: Soft, decreased bowel sounds, tender to palpation thoughout
   Extremities: Right: 1+, Left: 2+ edema
   Musculoskeletal: soft tissue prominence over right knee, bilateral
   knees and elbows in dressings, right wrist in dressing
   Neurologic: Opens eyes to voice, c/o pain
   Labs / Radiology
   162 K/uL
   7.2 g/dL
   180 mg/dL
   3.4 mg/dL
   23 mEq/L
   4.2 mEq/L
   112 mg/dL
   104 mEq/L
   138 mEq/L
   23.5 %
   14.0 K/uL
        [image002.jpg]
   Diff: N 87, B 2, L 6
                             [**2174-3-11**]  02:25 PM
                             [**2174-3-11**]  10:48 PM
                             [**2174-3-12**]  01:15 AM
                             [**2174-3-12**]  03:15 AM
                             [**2174-3-12**]  06:33 AM
                             [**2174-3-12**]  04:02 PM
                             [**2174-3-12**]  04:15 PM
                             [**2174-3-12**]  07:36 PM
                             [**2174-3-13**]  03:09 AM
                             [**2174-3-13**]  03:36 AM
   WBC
   7.4
   14.0
   Hct
   25.1
   25.8
   23.5
   Plt
   140
   162
   Cr
   2.9
   3.3
   3.4
   3.4
   TCO2
   20
   23
   25
   25
   26
   Glucose
   287
   157
   186
   180
   Other labs: PT / PTT / INR:16.0/45.7/1.4, Lactic Acid:1.2 mmol/L,
   Ca++:7.1 mg/dL, Mg++:2.4 mg/dL, PO4:8.9 mg/dL
   C. diff neg x 1; [**3-12**] sputum 4+ GNRs and 4+ budding yeast on gram stain;
   [**3-11**] sputum with mod growth GNRs
   All joint fluid specimens from [**3-12**] with GPCs on gram stain; cultures of
   prior fluid growing MSSA
   Assessment and Plan
   Assessment and Plan: This is a 78 y/o M h/o CAD, CHF, and recently
   diagnosed colon cancer who presents with A. Fib with RVR and
   bacteremia.
   .
   # Fever/bacteremia:  Blood cultures from [**Location (un) 78**] growing MSSA.  Source
   unclear. ESR and CRP are markedly elevated and patient has septic
   joints as well.  Presentation not convincing for pneumonia, but cannot
   definitely rule out.  LAT CXR not of high enough quality to visualize
   retrocardiac opacity.  ID recommended CT torso, however, patient
   creatinine is acutely elevated and contrast at this time is likely to
   result in further kidney injury.  Will defer bronchoscopy at present as
   patient has minimal secretions while intubated and no significant
   respiratory symptoms prior to intubation.  Sputum now growing GNRs.  If
   patient has increasing sputum or becomes febrile will consider adding
   gram negative coverage.  TEE on [**3-11**] was negative for vegetations on the
   valves and pacer lead, but given high grade bacteremia, a small
   vegetation may have been missed.
   - daily surveillance cultures
   - d4 nafcillin for MSSA bacteremia (Day 1 = [**2174-3-10**])
   - daily EKGs to assess intervals
   .
   # Septic arthritis / gout: Patient septic arthritis combined with gouty
   arthritis in multiple joints.  Orthopedics took patient to the OR for
   washout on [**3-12**] and all joints tapped have bacteria on gram stain.
   Assistance and recs from ortho and rheum are much appreciated.
   - colchicine off given elevated creatinine
   - solumedrol 16 mg daily per rheum for gout; needs slow taper
   - ortho following, JP drain still in left knee
   .
   # Tachypnea/hypoxemia: Appears to be subacute exacerbation with decline
   over past 3-4 weeks.  No clear evidence of pneumonia by CXR although
   possible posterobasilar infiltrate.  Urinary Legionella antigen
   negative.   Lactate mildly elevated on presentation, but lower after
   fluid resuscitation.  Some evidence for COPD exacerbation by history
   and in setting of steroid taper, but does not explain bacteremia and
   new A. Fib with RVR.  V/Q scan with low probability for PE.  [**Month (only) 11**]
   represent mild diastolic dysfunction [**2-7**] to a. fib with RVR causing
   pulmonary edema.  Lastly would consider aspiration.  Patient electively
   intubated on [**3-11**] to perform multiple procedures.  Some difficulty
   weaning patient from vent early in the morning of [**3-13**].
   - Cont. to wean vent settings as tolerated
   - Antibiotics
   - nebulizers
   .
   # ARF: Likely predominantly pre-renal as patient appeared
   underresuscitated on presentation and urine lytes consistent with
   pre-renal etiology.  Previous baseline 1.3-1.5 at [**Hospital1 1**] [**Location (un) 78**]. LOS
   I/Os documentation
 includes 4L patient received prior to arriving in
   the ICU.  Patient received multiple boluses of IVF overnight for low
   urine outputs with CVPs 10-11.  No evidence of UTI currently.  Renal
   ultrasound yesterday with right-sided hydronephrosis (of note patient
   has a mass lesion in left kidney previously documented at [**Hospital1 **] [**Location (un) 78**])
   but no evidence of abscess.
   - discuss with urology
   - renally dose meds (decrease nafcillin to 2 g Q6H if creatinine >
   4.0)
   - NS boluses and blood prn
   .
   # Tachycardia: A. Fib with RVR
 appears to be a new diagnosis for this
   patient.  Likely not a candidate for coumadin given recent GI bleed and
   colon cancer.  Patient has ruled out for an MI.  Now off dilt drip and
   on PO metoprolol TID.  On reduced amnio dose per EP recs.  Had TEE on
   [**3-11**] that showed no clot.  Patient converted to NSR post-TEE in the
   setting of
   hyperkalemia and has remained in NSR after electrolyte correction.
   Appreciate assistance from EP.
   - metoprolol held on evening of [**3-12**] and am [**3-13**] due to low blood
   pressures
   - notify EP when patient stable and leaving the unit to repeat
   assessment of his device (note they changed his baseline pacing rate to
   60 bpm on [**3-11**]).
   .
   # Abdominal pain: The patient did not have any abdominal pain on
   presentation.  He had mild discomfort on exam yesterday which appears
   to be worse today.  Abdominal ultrasound also noted sludge in the
   gallbladder, no other findings noted.  Pain could be secondary to a
   bilary process, bacteremia (?abdominal abscess), or some other process
   related to his colon cancer.
   - LFTs, amylase, lipase added on to am labs
   - consider non-contrast abdominal/pelvis CT scan
   .
   # Anemia: Chronically, likely iron deficiency from colon cancer.  Acute
   drop overnight likely secondary to orthopedic washout yesterday.
   Patient transfused with 1 unit on am of [**3-13**].  Will check pm hct.
   - Additional blood prn; pt. has one more unit in house.
   - continue iron replacement
   - obtain outpatient records.
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - obtain outpatient records.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Will cover with
   humalog sliding scale q6h for now given steroids.
   .
   # Glaucoma: continue eye drops,
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, NPO for now given potential for extubation
   today.  If not extubated, will consider initiating tube feeds.
   .
   # Prophylaxis: Subcutaneous heparin, outpatient PPI for GERD
   .
   # Access: A-line ([**2174-3-11**]), and R IJ central line ([**2174-3-11**])
   .
   # Code: Full
   .
   # Communication: Patient,  Wife
   .
   # Disposition: Requires ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   Multi Lumen - [**2174-3-11**] 04:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-03-14 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - K 4.9, Phos 9.5, Cr 3.8
   - 15 gm of Kayexelate was given prophylactically.
   - UOP dropping off
   - RSBI 72; 45 min on SBT, however not extubated as pt is still
   critically ill and has a h/o advanced COPD (FEV1 of 28%), leading to
   high probability of failing extubation at this time
   - Sputum Cx - ?oropharyngeal flora, GNR (two different species)
   - Checking daily EKGs to check for increased PR interval (vegetations);
   baseline EKG today since pt was in A fib previously and thus cannot
   compare intervals.
   - C. diff pending
   - Falling hematocrit. 23.5->25.2 yesterday with 1 u pRBCs, then back
   down to 20.4 this AM. Ordered two more units. Should also get a
   dedicated blood transfusion consent (using surgical consent at this
   time)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2174-3-14**] 04:05 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-13**] 08:00 PM
   Morphine Sulfate - [**2174-3-13**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-14**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.3
C (97.4
   HR: 70 (67 - 102) bpm
   BP: 109/33(56) {92/30(49) - 126/49(75)} mmHg
   RR: 25 (24 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 9 (6 - 12)mmHg
   Total In:
                                                                  3,327 mL
                                                                  1,045 mL
   PO:
   TF:
   IVF:
                                                                  2,697 mL
                                                                    695 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                    867 mL
                                                                    390 mL
   Urine:
                                                                    792 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                  2,460 mL
                                                                    655 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 720 (343 - 720) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.34/42/124/21/-2
   Ve: 10.5 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Tachycardic, regular rhythm, normal s1 and s2. [**2-11**]
   systolic murmur at LUSB
   Respiratory / Chest: (Breath Sounds: coarse )
   Abdominal: Soft, decreased bowel sounds, tender to palpation thoughout
   Extremities: Right: 1+, Left: 2+ edema
   Musculoskeletal: soft tissue prominence over right knee, bilateral
   knees and elbows in dressings, right wrist in dressing
   Neurologic: Opens eyes to voice, c/o pain
   Labs / Radiology
   154 K/uL
   6.7 g/dL
   111 mg/dL
   4.3 mg/dL
   21 mEq/L
   4.0 mEq/L
   130 mg/dL
   102 mEq/L
   139 mEq/L
   20.4 %
   10.1 K/uL
        [image002.jpg]
                             [**2174-3-12**]  06:33 AM
                             [**2174-3-12**]  04:02 PM
                             [**2174-3-12**]  04:15 PM
                             [**2174-3-12**]  07:36 PM
                             [**2174-3-13**]  03:09 AM
                             [**2174-3-13**]  03:36 AM
                             [**2174-3-13**]  03:40 PM
                             [**2174-3-13**]  05:45 PM
                             [**2174-3-14**]  03:13 AM
                             [**2174-3-14**]  03:35 AM
   WBC
   14.0
   11.1
   10.1
   Hct
   25.8
   23.5
   25.2
   20.4
   Plt
   162
   160
   154
   Cr
   3.3
   3.4
   3.4
   3.8
   4.3
   TCO2
   25
   25
   26
   23
   24
   Glucose
   157
   186
   180
   129
   111
   Other labs: PT / PTT / INR:15.9/48.9/1.4, CK / CKMB /
   Troponin-T:41//0.05, ALT / AST:21/31, Alk Phos / T Bili:81/2.9, Amylase
   / Lipase:26/17, Differential-Neuts:87.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, LDH:246 IU/L, Ca++:7.5
   mg/dL, Mg++:2.6 mg/dL, PO4:9.9 mg/dL
   Assessment and Plan
   This is a 78 y/o M h/o CAD, CHF, and recently diagnosed colon cancer
   who presents with A. Fib with RVR and bacteremia.
   .
   # Fever/bacteremia:  Blood cultures from [**Location (un) 78**] growing MSSA.  Source
   unclear. ESR and CRP are markedly elevated and patient has septic
   joints as well.  Presentation not convincing for pneumonia, but cannot
   definitely rule out.  LAT CXR not of high enough quality to visualize
   retrocardiac opacity.  ID recommended CT torso, however, patient
   creatinine is acutely elevated and contrast at this time is likely to
   result in further kidney injury.  Will defer bronchoscopy at present as
   patient has minimal secretions while intubated and no significant
   respiratory symptoms prior to intubation.  Sputum now growing GNRs.  If
   patient has increasing sputum or becomes febrile will consider adding
   gram negative coverage.  TEE on [**3-11**] was negative for vegetations on the
   valves and pacer lead, but given high grade bacteremia, a small
   vegetation may have been missed.
   - daily surveillance cultures
   - d4 nafcillin for MSSA bacteremia (Day 1 = [**2174-3-10**])
   - Will d/c daily EKGs to assess intervals
 not likely myositis
   - F/u mini-BAL results, per ID recs
   .
   # Septic arthritis / gout: Patient septic arthritis combined with gouty
   arthritis in multiple joints.  Orthopedics took patient to the OR for
   washout on [**3-12**] and all joints tapped have bacteria on gram stain.
   Assistance and recs from ortho and rheum are much appreciated.
   - colchicine off given elevated creatinine
   - solumedrol 16 mg daily per rheum for gout; needs slow taper
   - ortho following, JP drain still in left knee
 F/u ortho recs
   .
   # Tachypnea/hypoxemia: Appears to be subacute exacerbation with decline
   over past 3-4 weeks.  No clear evidence of pneumonia by CXR although
   possible posterobasilar infiltrate.  Urinary Legionella antigen
   negative.   Lactate mildly elevated on presentation, but lower after
   fluid resuscitation.  Some evidence for COPD exacerbation by history
   and in setting of steroid taper, but does not explain bacteremia and
   new A. Fib with RVR.  V/Q scan with low probability for PE.  [**Month (only) 11**]
   represent mild diastolic dysfunction [**2-7**] to a. fib with RVR causing
   pulmonary edema.  Lastly would consider aspiration.  Patient electively
   intubated on [**3-11**] to perform multiple procedures.  Some difficulty
   weaning patient from vent early in the morning of [**3-13**].
   - Cont. to wean vent settings as tolerated
   - Antibiotics
   - nebulizers
   .
   # ARF: Likely predominantly pre-renal as patient appeared
   underresuscitated on presentation and urine lytes consistent with
   pre-renal etiology.  Previous baseline 1.3-1.5 at [**Hospital1 1**] [**Location (un) 78**]. LOS
   I/Os documentation
 includes 4L patient received prior to arriving in
   the ICU.  Patient received multiple boluses of IVF overnight for low
   urine outputs with CVPs 10-11.  No evidence of UTI currently.  Renal
   ultrasound yesterday with right-sided hydronephrosis (of note patient
   has a mass lesion in left kidney previously documented at [**Hospital1 **] [**Location (un) 78**])
   but no evidence of abscess. Pt does have positive WBC on U/A [**2174-3-11**],
   but thought to be contaminant [**2-7**] Foley
 add urine eosiniphils and
   repeat U/A
   - F/u Urology c/s (moderate right hydronephrosis)
   - Renal c/s in AM for worsening kidney failure.
   - renally dose meds (decrease nafcillin to 2 g Q6H if creatinine >
   4.0)
   - NS boluses and blood prn
   .
   # Tachycardia: A. Fib with RVR
 appears to be a new diagnosis for this
   patient.  Likely not a candidate for coumadin given recent GI bleed and
   colon cancer.  Patient has ruled out for an MI.  Now off dilt drip and
   on PO metoprolol TID.  On reduced amnio dose per EP recs.  Had TEE on
   [**3-11**] that showed no clot.  Patient converted to NSR post-TEE in the
   setting of
   hyperkalemia and has remained in NSR after electrolyte correction.
   Appreciate assistance from EP.
   - metoprolol held on evening of [**3-12**] and am [**3-13**] due to low blood
   pressures
   - notify EP when patient stable and leaving the unit to repeat
   assessment of his device (note they changed his baseline pacing rate to
   60 bpm on [**3-11**]).
   .
   # Abdominal pain: The patient did not have any abdominal pain on
   presentation.  He had mild discomfort on exam yesterday which appears
   to be worse today.  Abdominal ultrasound also noted sludge in the
   gallbladder, no other findings noted.  Pain could be secondary to a
   bilary process, bacteremia (?abdominal abscess), or some other process
   related to his colon cancer.
   - LFTs, amylase, lipase added on to am labs
   - consider non-contrast abdominal/pelvis CT scan
   .
   # Anemia: Chronically, likely iron deficiency from colon cancer.  Acute
   drop overnight likely secondary to orthopedic washout yesterday.
   Patient transfused with 1 unit on am of [**3-13**].  Will check pm hct.
   - Additional blood prn; pt. has one more unit in house.
   - continue iron replacement
   - obtain outpatient records.
   - Guaiac stools
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - obtain outpatient records.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Will cover with
   humalog sliding scale q6h for now given steroids.
   .
   # Glaucoma: continue eye drops,
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, NPO for now given potential for extubation
   today. ISS. initiate tube feeds as patient likely to be on vent for
   some time.
   .
   # Prophylaxis: D/c subcutaneous heparin for anemia (?blood loss) and
   start pneumoboots, PPI
   .
   # Access: A-line ([**2174-3-11**]), and R IJ central line ([**2174-3-11**])
   .
   # Code: Full
   .
   # Communication: Patient,  Wife
   .
   # Disposition: Requires ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   Multi Lumen - [**2174-3-11**] 04:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-03-15 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Fentanyl patch started for pain and likely to help wean sedation
   -Nephrology: no dialysis now, will follow, treat hyperphosphatemia
   - Urology C/S: R Hydronephrosis chronic, no indication for nephrostomy
   tube at this time. If Cr does not improve, repeat U/S and place
   nephrostomy tube if hydro worsens. Contrast CT when completely
   recovered and Cr at baseline.
   - Rheum Recs: Taper prednisone (10mg x3d, 5mg x2d, 2.5mg x2d). No
   further recs at this time. Page w/ questions.
   - Cards: No veg on pacer wire.
   - C.diff negative x2.
   - BAL: Gram stain neg for PMNs/Organisms.
   - Had ABG 7.25/45/57/21 FiO2 40% for O2 sats in mid-80s, incr FiO2 to
   50%, TV to 550 and RR to 24 with repeat ABG of 7.32/37/129/20 with O2
   sat of 97%.
   - CXR unchanged from previous.
   - Overnight, had drop in SBP to 80s (MAP in 40s), between 2100 to 0600,
   bolused 500cc NS x3, then 1L NS x1 with improvement to SBP 90s, MAP in
   50s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2174-3-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2174-3-14**] 09:14 PM
   Heparin Sodium (Prophylaxis) - [**2174-3-15**] 04:00 AM
   Insulin - Humalog - [**2174-3-15**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-15**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 75 (65 - 77) bpm
   BP: 100/34(55) {85/30(48) - 141/56(80)} mmHg
   RR: 24 (15 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 5 (5 - 9)mmHg
   Total In:
                                                                  2,655 mL
                                                                  3,282 mL
   PO:
   TF:
                                                                     84 mL
   IVF:
                                                                  1,765 mL
                                                                  3,147 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,765 mL
                                                                    225 mL
   Urine:
                                                                  1,065 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                  3,057 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 551 (500 - 551) mL
   Vt (Spontaneous): 520 (366 - 520) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   SpO2: 94%
   ABG: 7.29/36/90.[**Numeric Identifier 433**]/19/-8
   Ve: 12.8 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: regular rate and rhythm, normal s1 and s2. 2/6 systolic
   murmur at LUSB
   Respiratory / Chest: (Breath Sounds: coarse )
   Abdominal: Soft, decreased bowel sounds, tender to palpation throughout
   Extremities: Right: 1+, Left: 2+ edema
   Musculoskeletal: soft tissue prominence over right knee, bilateral
   knees and elbows in dressings, right wrist in dressing
   Neurologic: Opens eyes to voice
   Labs / Radiology
   125 K/uL
   9.0 g/dL
   119 mg/dL
   4.2 mg/dL
   19 mEq/L
   3.9 mEq/L
   135 mg/dL
   105 mEq/L
   142 mEq/L
   28.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2174-3-13**]  03:40 PM
                             [**2174-3-13**]  05:45 PM
                             [**2174-3-14**]  03:13 AM
                             [**2174-3-14**]  03:35 AM
                             [**2174-3-14**]  04:37 PM
                             [**2174-3-14**]  08:42 PM
                             [**2174-3-14**]  10:28 PM
                             [**2174-3-15**]  03:00 AM
                             [**2174-3-15**]  03:18 AM
                             [**2174-3-15**]  05:32 AM
   WBC
   11.1
   10.1
   14.0
   7.2
   Hct
   25.2
   20.4
   30.4
   28.0
   Plt
   160
   154
   175
   125
   Cr
   3.8
   4.3
   4.2
   TCO2
   23
   24
   21
   20
   19
   18
   Glucose
   129
   111
   119
   Other labs: PT / PTT / INR:15.4/51.0/1.4, CK / CKMB /
   Troponin-T:41//0.05, ALT / AST:[**4-20**], Alk Phos / T Bili:61/3.9, Amylase
   / Lipase:26/17, Differential-Neuts:95.9 %, Band:2.0 %, Lymph:2.7 %,
   Mono:1.2 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:1.6 g/dL,
   LDH:240 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:11.2 mg/dL
   Assessment and Plan
   This is a 78 y/o M h/o CAD, CHF, and recently diagnosed colon cancer
   who presents with new onset A. Fib with RVR and MSSA bacteremia, now
   with respiratory failure and ARF.
   .
   # Respiratory failure: Presented with subacute exacerbation with
   decline over past 3-4 weeks.  No clear evidence of pneumonia by CXR
   although possible posterobasilar infiltrate.  Urinary Legionella
   antigen negative.   Lactate mildly elevated on presentation, but lower
   after fluid resuscitation.  Some evidence for COPD exacerbation by
   history and in setting of steroid taper, but does not explain
   bacteremia and new A. Fib with RVR.  V/Q scan with low probability for
   PE.  [**Month (only) 11**] represent mild diastolic dysfunction [**2-7**] to a. fib with RVR
   causing pulmonary edema.  Lastly would consider aspiration.  Patient
   electively intubated on [**3-11**] to perform multiple procedures.  Difficulty
   weaning patient from the ventilator with increased O2 requirements,
   which may be more difficult if ARF causes fluid retention. Had acute
   increase in O2 requirement on [**3-14**], likely multifactorial in nature
   (stacking pain meds, weaning vent settings, and worsening intravascular
   depletion).
   - Cont. to wean vent settings as tolerated to maximize extubation
   success, likely will not take place until renal failure / septic
   physiology improves
   - Continue to try PSV trials (20/5)
   - Coordinate the administration of pain meds to stagger over the course
   of the day
   - Cont nebulizers
   .
   # ARF: Initially thought to be pre-renal as patient appeared
   underresuscitated on presentation and urine lytes consistent with
   pre-renal etiology.  Previous baseline 1.3-1.5 at [**Hospital1 1**] [**Location (un) 78**]. LOS
   I/Os documentation
 includes 4L patient received prior to arriving in
   the ICU.  Patient received multiple boluses of IVF overnight for low
   urine outputs with CVPs 10-11.  No evidence of UTI currently.  Renal
   ultrasound yesterday with right-sided hydronephrosis (of note patient
   has a mass lesion in left kidney previously documented at [**Hospital1 **] [**Location (un) 78**])
   but no evidence of abscess. Pt had positive WBC on U/A [**2174-3-11**], but
   thought to be contaminant [**2-7**] Foley
urine eosinophils negative (argues
   against AIN) and repeat U/A negative for WBC and RBC. Low C3/C4 argues
   for immune complex damage - not specific, but argues for ATN in setting
   of recent prerenal ARF. Cr stable in 4+ range, which could represent a
   slowing of kidney damage.
   - Trend lytes
   - F/u Urology c/s for hydronephrosis
 will place nephrostomy drain if
   hydro worsens
   - Renal c/s
 no need for HD at this time, treat hyperphosphatemia with
   Renagel
 will add AlOH for increasing phos
   - Renally dose meds (decreased nafcillin to 2 g Q6H for creatinine >
   4.0)
   - NS boluses and blood prn, as UOP and CVP increase with fluid infusion
   .
   # Fever/bacteremia:  Blood cultures from [**Location (un) 78**] growing MSSA.  Source
   unclear. ESR and CRP are markedly elevated and patient has septic
   joints as well.  Presentation not convincing for pneumonia, but cannot
   definitely rule out.  LAT CXR not of high enough quality to visualize
   retrocardiac opacity.  ID recommended CT torso, however, patient
   creatinine is acutely elevated and contrast at this time is likely to
   result in further kidney injury.  Sputum now growing GNRs. Mini BAL neg
   for polys or microorganisms.  If patient has increasing sputum or
   becomes febrile will consider adding gram negative coverage.  TEE on
   [**3-11**] was negative for vegetations on the valves and pacer lead
 small
   vegetation cannot be ruled out.
   - daily surveillance cultures
 so far are negative after the initial
   positive bld cx
   - d6 nafcillin for MSSA bacteremia (Day 1 = [**2174-3-10**]), will think about
   an endpoint to antibiotics as bld cx finalize
   .
   # Septic arthritis / gout: Patient septic arthritis combined with gouty
   arthritis in multiple joints.  Orthopedics took patient to the OR for
   washout on [**3-12**] and all joints tapped have bacteria on gram stain.
   Assistance and recs from ortho and rheum are much appreciated.
   - colchicine off given elevated creatinine
   - Slow taper of steroids started [**3-14**]
   - F/u ortho recs
 pulled L knee JP drain this AM
   .
   # Tachycardia: A. Fib with RVR
 appears to be a new diagnosis for this
   patient.  Likely not a candidate for coumadin given recent GI bleed and
   colon cancer.  Patient has ruled out for an MI.  Now off dilt drip and
   on PO metoprolol TID.  On reduced amnio dose per EP recs.  Had TEE on
   [**3-11**] that showed no clot.  Patient converted to NSR post-TEE in the
   setting of
   hyperkalemia and has remained in NSR after electrolyte correction.
   Appreciate assistance from EP.
   - now NSR
   - metoprolol being held for low SBP
 will d/c for now, but continue
   amiodarone po as hemodynamics worsen with a-fib
   - notify EP when patient stable and leaving the unit to repeat
   assessment of his device (note they changed his baseline pacing rate to
   60 bpm on [**3-11**]).
   .
   # Abdominal pain: The patient did not have any abdominal pain on
   presentation.  He had mild discomfort on exam yesterday which appears
   to be worse today.  Abdominal ultrasound also noted sludge in the
   gallbladder, no other findings noted.  Pain could be secondary to a
   bilary process, bacteremia (?abdominal abscess), or some other process
   related to his colon cancer.
   - Trend LFTs
 elevated Tbili, other LFTs and lipase nl
   - will repeat RUQ U/S to work up possible worsening gall bladder dx
   .
   # Anemia: Chronically, likely iron deficiency and anemia of chronic
   disease from colon cancer.  Acute drop overnight likely secondary to
   orthopedic washout yesterday.  Patient transfused with 1 unit on am of
   [**3-13**] and 2 U [**3-14**]. Haptoglobin not decreased and LDH not largely
   elevated, so hemolysis less likely
   - continue iron replacement
   - obtain outpatient records.
   - Guaiac stools
 neg x2
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - obtain outpatient records.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Continue
   humalog sliding scale q6h for now, given steroids.
   .
   # Glaucoma: continue eye drops
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, ISS. initiate tube feeds as patient likely
   to be on vent for some time.
   .
   # Prophylaxis: HSC, pneumoboots, PPI
   .
   # Access: A-line ([**2174-3-11**]), and R IJ central line ([**2174-3-11**]), will place
   PICC today for ATBx IV (bacteremia)
   .
   # Code: Full
   .
   # Communication: Patient,  Wife
   .
   # Disposition: Requires ICU level of care, but will talk with family
   re: escalation of care in regards to worsening renal failure
   (?hemodialysis) and prolonged intubation, in setting of newly diagnosed
   colon CA.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-15**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   Multi Lumen - [**2174-3-11**] 04:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-03-16 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal recs: change AlOH to 10 mg TID x 3d, urine prot:creat, if
   creatinine cont. to rise consider renal biopsy and changing nafcillin
   - per urology recs had MAG-3 renal scan; showed no uptake bilaterally
   and no evidence of obstruction; per urology no uptake because of poor
   renal perfusion - will cont. to follow & if creatinine rises, check
   repeat renal ultrasounds to assess if hydro is getting worse, if so,
   will consider stenting.
   - per outpt records pt. with invasive rectosigmoid adenocarcinoma, no
   known mets, considering radiation vs. chemo + rad, was to see surgery
   on [**3-16**]; p/w hct 23 down from baseline 35-37.
   - ID recs TEE in [**1-7**] weeks / CT torso when feasible
   - Blood cx from [**3-14**] growing GNRs; discussed with ID who recommended
   cipro, cefepime, flagyl & d/c nafcillin until further info available
   - sputum GNRs are Enterobacter cloacae ([**Last Name (un) 206**] to cefepime & cipro)
 BLOOD CULTURED - At [**2174-3-16**] 04:03 AM
   surveillence cxs x2 from central and arterial lines.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2174-3-15**] 10:00 AM
   Cefipime - [**2174-3-15**] 08:28 PM
   Ciprofloxacin - [**2174-3-15**] 08:28 PM
   Metronidazole - [**2174-3-15**] 09:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-15**] 10:30 PM
   Morphine Sulfate - [**2174-3-16**] 04:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-16**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 81 (74 - 94) bpm
   BP: 127/44(72) {90/33(51) - 127/45(72)} mmHg
   RR: 18 (17 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 6 (2 - 15)mmHg
   Total In:
                                                                  5,077 mL
                                                                    488 mL
   PO:
   TF:
                                                                    456 mL
                                                                    230 mL
   IVF:
                                                                  4,481 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    525 mL
   Urine:
                                                                  1,100 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                  3,877 mL
                                                                    -37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 551 (551 - 551) mL
   Vt (Spontaneous): 525 (513 - 677) mL
   PS : 20 cmH2O
   RR (Set): 22
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 99%
   ABG at 3:30am: 7.28/36/106/16/-8
   Ve: 13.7 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: regular rate and rhythm, normal s1 and s2. 2/6 systolic
   murmur at LUSB
   Respiratory / Chest: (Breath Sounds: coarse )
   Abdominal: Soft, decreased bowel sounds, tender to palpation throughout
   Extremities: Right: 1+, Left: 2+ edema
   Musculoskeletal: soft tissue prominence over right knee, bilateral
   knees and elbows in dressings, right wrist in dressing
   Neurologic: Opens eyes to voice
   Labs / Radiology
   122 K/uL
   8.3 g/dL
   209 mg/dL
   4.3 mg/dL
   16 mEq/L
   3.8 mEq/L
   143 mg/dL
   106 mEq/L
   142 mEq/L
   25.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2174-3-14**]  08:42 PM
                             [**2174-3-14**]  10:28 PM
                             [**2174-3-15**]  03:00 AM
                             [**2174-3-15**]  03:18 AM
                             [**2174-3-15**]  05:32 AM
                             [**2174-3-15**]  08:59 AM
                             [**2174-3-15**]  10:39 AM
                             [**2174-3-15**]  06:15 PM
                             [**2174-3-16**]  03:45 AM
                             [**2174-3-16**]  03:56 AM
   WBC
   7.2
   9.4
   Hct
   28.0
   25.6
   Plt
   125
   122
   Cr
   4.2
   4.3
   TCO2
   21
   20
   19
   18
   18
   18
   17
   18
   Glucose
   119
   209
   Other labs: PT / PTT / INR:15.0/55.1/1.3, CK / CKMB /
   Troponin-T:41//0.05, ALT / AST:[**3-21**], Alk Phos / T Bili:64/2.4, Amylase
   / Lipase:44/39, Differential-Neuts:95.9 %, Band:2.0 %, Lymph:2.7 %,
   Mono:1.2 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:1.7 g/dL,
   LDH:268 IU/L, Ca++:6.6 mg/dL, Mg++:2.4 mg/dL, PO4:10.5 mg/dL
   Urine
   Creat:40
   TotProt:56
   Prot/Cr:1.4
   Microbiology:
   Blood cultures [**3-10**], [**3-11**], [**3-12**], [**3-13**], [**3-15**], [**3-16**] No growth to date
   BCx [**3-9**] 2/2 bottles MSSA
   BCx [**3-14**] 2/2 bottles PRELIMINARY- GRAM NEGATIVE RODS
[**2174-3-12**] 3:42 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
                            **FINAL REPORT [**2174-3-15**]**
   GRAM STAIN (Final [**2174-3-12**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   BUDDING YEAST.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2174-3-15**]):
      OROPHARYNGEAL FLORA ABSENT.
      ENTEROBACTER CLOACAE.    HEAVY GROWTH.
      YEAST.    MODERATE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ENTEROBACTER CLOACAE
                             |
CEFEPIME--------------     4 S
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN---------- =>128 R
TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   [**3-9**] MRSA screen negative
   [**3-15**] MRSA screen pending
[**2174-3-14**] 3:22 pm BRONCHIAL WASHINGS      MINI BAL.
   GRAM STAIN (Final [**2174-3-14**]): no PMNs, no microorganisms
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   [**3-13**] C diff neg
   [**Date range (1) 4703**] Joint fluid (both knees, both elbows, right wrist): All showing
   MSSA
   [**3-9**] Urine Cx negative, Urine Legionella antigen negative
   Portable CXR [**2174-3-15**]
   FINDINGS: In comparison with the study of [**3-14**], may be some decrease in
   the
   left effusion with persistent retrocardiac opacification. Although the
   appearance is most suggestive of atelectasis, the possibility of
   superimposed
   pneumonia cannot be excluded. A lateral view would be helpful if the
   condition of the patient permits.
   MAG-3 Renal scan [**2174-3-15**]
   INTERPRETATION: Flow and dynamic images were obtained after intravenous
   administration of tracer.
   Blood flow images show prompt appearance of tracer in the aorta with
   diminished
   perfusion of both kidneys.
   Renogram images show minimal cortical uptake of tracer bilaterally and
   no
   evidence of concentration of activity in the cortex or excretion into
   the
   collecting system.
   IMPRESSION: Severe impaired bilateral renal function.
   RUQ U/S [**2174-3-15**]
   FINDINGS: The gallbladder is moderately distended, measuring up to 6 cm
   in
   diameter, but this appearance is unchanged since a prior CT also
   [**2174-2-24**].
   The wall is not thickened. A 13-mm shadowing stone is present with a
   small
   amount of sludge. A tiny amount of pericholecystic fluid is present,
   but
   is non=specific, particularly in the presence of a small amount of
   ascites
   also found elsewhere about the liver. There is no intra- or extra-
   hepatic
   biliary ductal dilatation. The flow in the main portal vein is
   hepatopetal.
   IMPRESSION: Moderately distended gallbladder with cholelithiasis, not
   significantly changed, but with no specific features for cholecystitis.
   Assessment and Plan
   This is a 78 y/o M h/o CAD, CHF, and recently diagnosed colon cancer
   who presents with new onset A. Fib with RVR and MSSA bacteremia, now
   with respiratory failure and ARF.
   .
   # Respiratory failure: Presented with subacute exacerbation with
   decline over past 3-4 weeks.  No clear evidence of pneumonia by CXR
   although possible posterobasilar infiltrate.  Urinary Legionella
   antigen negative.   Lactate mildly elevated on presentation, but lower
   after fluid resuscitation.  Some evidence for COPD exacerbation by
   history and in setting of steroid taper, but does not explain
   bacteremia and new A. Fib with RVR.  V/Q scan with low probability for
   PE.  [**Month (only) 11**] represent mild diastolic dysfunction [**2-7**] to a. fib with RVR
   causing pulmonary edema.  Lastly would consider aspiration.  Patient
   electively intubated on [**3-11**] to perform multiple procedures.  Difficulty
   weaning patient from the ventilator with increased O2 requirements,
   which may be more difficult if ARF causes fluid retention. Had acute
   increase in O2 requirement on [**3-14**], likely multifactorial in nature
   (stacking pain meds, weaning vent settings, and worsening intravascular
   depletion).
   - Cont. to wean vent settings as tolerated to maximize extubation
   success, likely will not take place until renal failure / septic
   physiology improves
   - Continue to try PSV trials (20/5)
   - Coordinate the administration of pain meds to stagger over the course
   of the day
   - Cont nebulizers
   .
   # ARF: Initially thought to be pre-renal as patient appeared
   underresuscitated on presentation and urine lytes consistent with
   pre-renal etiology.  Previous baseline 1.3-1.5 at [**Hospital1 1**] [**Location (un) 78**]. LOS
   I/Os documentation
 includes 4L patient received prior to arriving in
   the ICU.  Patient received multiple boluses of IVF overnight for low
   urine outputs with CVPs 10-11.  No evidence of UTI currently.  Renal
   ultrasound yesterday with right-sided hydronephrosis (of note patient
   has a mass lesion in left kidney previously documented at [**Hospital1 **] [**Location (un) 78**])
   but no evidence of abscess. Pt had positive WBC on U/A [**2174-3-11**], but
   thought to be contaminant [**2-7**] Foley
urine eosinophils negative (argues
   against AIN) and repeat U/A negative for WBC and RBC. Low C3/C4 argues
   for immune complex damage - not specific, but argues for ATN in setting
   of recent prerenal ARF. Cr stable in 4+ range, which could represent a
   slowing of kidney damage.
   - Trend lytes
   - F/u Urology c/s for hydronephrosis
 will place nephrostomy drain if
   hydro worsens
   - Renal c/s
 no need for HD at this time, treat hyperphosphatemia with
   Renagel
 will add AlOH for increasing phos
   - Renally dose meds (decreased nafcillin to 2 g Q6H for creatinine >
   4.0)
   - NS boluses and blood prn, as UOP and CVP increase with fluid infusion
   .
   # Fever/bacteremia:  Blood cultures from [**Location (un) 78**] growing MSSA.  Source
   unclear. ESR and CRP are markedly elevated and patient has septic
   joints as well.  Presentation not convincing for pneumonia, but cannot
   definitely rule out.  LAT CXR not of high enough quality to visualize
   retrocardiac opacity.  ID recommended CT torso, however, patient
   creatinine is acutely elevated and contrast at this time is likely to
   result in further kidney injury.  Sputum now growing GNRs. Mini BAL neg
   for polys or microorganisms.  If patient has increasing sputum or
   becomes febrile will consider adding gram negative coverage.  TEE on
   [**3-11**] was negative for vegetations on the valves and pacer lead
 small
   vegetation cannot be ruled out.
   - daily surveillance cultures
 so far are negative after the initial
   positive bld cx
   - d6 nafcillin for MSSA bacteremia (Day 1 = [**2174-3-10**]), will think about
   an endpoint to antibiotics as bld cx finalize
   .
   # Septic arthritis / gout: Patient septic arthritis combined with gouty
   arthritis in multiple joints.  Orthopedics took patient to the OR for
   washout on [**3-12**] and all joints tapped have bacteria on gram stain.
   Assistance and recs from ortho and rheum are much appreciated.
   - colchicine off given elevated creatinine
   - Slow taper of steroids started [**3-14**]
   - F/u ortho recs
 pulled L knee JP drain this AM
   .
   # Tachycardia: A. Fib with RVR
 appears to be a new diagnosis for this
   patient.  Likely not a candidate for coumadin given recent GI bleed and
   colon cancer.  Patient has ruled out for an MI.  Now off dilt drip and
   on PO metoprolol TID.  On reduced amnio dose per EP recs.  Had TEE on
   [**3-11**] that showed no clot.  Patient converted to NSR post-TEE in the
   setting of
   hyperkalemia and has remained in NSR after electrolyte correction.
   Appreciate assistance from EP.
   - now NSR
   - metoprolol being held for low SBP
 will d/c for now, but continue
   amiodarone po as hemodynamics worsen with a-fib
   - notify EP when patient stable and leaving the unit to repeat
   assessment of his device (note they changed his baseline pacing rate to
   60 bpm on [**3-11**]).
   .
   # Abdominal pain: The patient did not have any abdominal pain on
   presentation.  He had mild discomfort on exam yesterday which appears
   to be worse today.  Abdominal ultrasound also noted sludge in the
   gallbladder, no other findings noted.  Pain could be secondary to a
   bilary process, bacteremia (?abdominal abscess), or some other process
   related to his colon cancer.
   - Trend LFTs
 elevated Tbili, other LFTs and lipase nl
   - will repeat RUQ U/S to work up possible worsening gall bladder dx
   .
   # Anemia: Chronically, likely iron deficiency and anemia of chronic
   disease from colon cancer.  Acute drop overnight likely secondary to
   orthopedic washout yesterday.  Patient transfused with 1 unit on am of
   [**3-13**] and 2 U [**3-14**]. Haptoglobin not decreased and LDH not largely
   elevated, so hemolysis less likely
   - continue iron replacement
   - obtain outpatient records.
   - Guaiac stools
 neg x2
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - obtain outpatient records.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Continue
   humalog sliding scale q6h for now, given steroids.
   .
   # Glaucoma: continue eye drops
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, ISS. initiate tube feeds as patient likely
   to be on vent for some time.
   .
   # Prophylaxis: HSC, pneumoboots, PPI
   .
   # Access: A-line ([**2174-3-11**]), and R IJ central line ([**2174-3-11**]), will place
   PICC today for ATBx IV (bacteremia)
   .
   # Code: Full
   .
   # Communication: Patient,  Wife
   .
   # Disposition: Requires ICU level of care, but will talk with family
   re: escalation of care in regards to worsening renal failure
   (?hemodialysis) and prolonged intubation, in setting of newly diagnosed
   colon CA.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-15**] 09:57 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   Multi Lumen - [**2174-3-11**] 04:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-03-17 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AICD firing, bacteremia
   24 Hour Events:
   - ID recs: Current regimen of Cipro, Cefepime and Flagyl OK for now.
   Change Cefepime to 1g Q24h given renal insuff. If CrCl drops further,
   new dosing regimen is Cefepime 500 mg IV Q24h, Cipro 200 mg Q24h
   Repeat Echo within a week
   CT torso when feasible
   Repeat BCx - if positive, d/c or change line
   - Ortho recs: watching R wrist closely. No plans to take pt back to OR
   for at least a few days.
   - Urology recs: get CT abd without contrast for ?stones
   dictated read: bilat basilar consolidation, worse compared with
   previous imaging on [**2174-2-24**] maybe PNA +/- aspiration ; bilat pleural
   effusion; no pericardial effusion. No definite focal lesions in liver,
   spleen, adrenals. Pancreas slightly atrophic. Dense calcifications in
   kidneys are c/w vascular calcification. No urolithiasis. No
   hydronephrosis in either kidney. 4.2 x 2.9 cyst in right kidney is
   unchanged. Other cysts are not well visualized. Again visualized 1.5 cm
   cyst in medial upper left kidney.   + ascites. GB distended with
   dependent gallstones. Small bowel unremarkable. No free air in abdomen.
   Previously described rectosigmoid mass is not well appreciated due to
   no contrast.
   No hydronephrosis. Large kidney cyst unchanged.
   cholelithiasis. Bilateral renal cysts, not fully evaluated due to lack
   of contrast.
   - Renal recs: dose meds for GFR<15, may do renal bx if worsens.
   Consider bicarb repletion of pH<7.2 and difficulty with vent.
   - PS 5/0 -> ABG 7.25/40/90
   - Was put back on PS 5/5 overnight to rest. -> repeat ABG
   - NGT placed and TF held in anticipation of extubation however not
   extubated today (pt was off floor for long periods of time for studies)
   - Increased Morphine freq from Q4 to Q2h (SBP to 188 with turning)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2174-3-15**] 10:00 AM
   Cefipime - [**2174-3-16**] 08:20 PM
   Ciprofloxacin - [**2174-3-16**] 08:30 PM
   Metronidazole - [**2174-3-16**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-16**] 10:00 PM
   Morphine Sulfate - [**2174-3-17**] 03:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-17**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 84 (82 - 95) bpm
   BP: 119/37(64) {108/35(60) - 150/51(82)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 9 (6 - 10)mmHg
   Total In:
                                                                  1,918 mL
                                                                    517 mL
   PO:
   TF:
                                                                    668 mL
                                                                    250 mL
   IVF:
                                                                    940 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    635 mL
   Urine:
                                                                  1,665 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                    253 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 628 (463 - 628) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.24/39/99.[**Numeric Identifier 8**]/17/-10
   Ve: 9.6 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Intubated, opens eyes to name, following simple
   commands. + pain everywhere
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: regular rate and rhythm, normal s1 and s2. 2/6 systolic
   murmur at LUSB
   Respiratory / Chest: Rhonchi throughout lung fields
   Abdominal: Soft, decreased bowel sounds, tender to palpation
   throughout, + bowel sounds
   Extremities: Right: 2+, Left: 2+ pitting edema
   Musculoskeletal: bilateral knees stapled, clean and dry. Elbows and
   right wrist in dressing +serous fluid draining
   Labs / Radiology
   102 K/uL
   7.8 g/dL
   145 mg/dL
   4.3 mg/dL
   17 mEq/L
   3.4 mEq/L
   146 mg/dL
   109 mEq/L
   145 mEq/L
   23.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2174-3-15**]  03:18 AM
                             [**2174-3-15**]  05:32 AM
                             [**2174-3-15**]  08:59 AM
                             [**2174-3-15**]  10:39 AM
                             [**2174-3-15**]  06:15 PM
                             [**2174-3-16**]  03:45 AM
                             [**2174-3-16**]  03:56 AM
                             [**2174-3-16**]  01:35 PM
                             [**2174-3-17**]  03:55 AM
                             [**2174-3-17**]  04:10 AM
   WBC
   9.4
   10.0
   Hct
   25.6
   23.4
   Plt
   122
   102
   Cr
   4.3
   4.3
   TCO2
   19
   18
   18
   18
   17
   18
   18
   18
   Glucose
   209
   145
   Other labs: PT / PTT / INR:16.1/59.0/1.4, CK / CKMB /
   Troponin-T:41//0.05, ALT / AST:[**2-25**], Alk Phos / T Bili:60/1.2, Amylase
   / Lipase:44/39, Differential-Neuts:95.9 %, Band:2.0 %, Lymph:2.7 %,
   Mono:1.2 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:1.7 g/dL,
   LDH:311 IU/L, Ca++:6.6 mg/dL, Mg++:2.5 mg/dL, PO4:10.2 mg/dL
   Assessment and Plan
   This is a 78 y/o M h/o CAD, CHF, and recently diagnosed colon cancer
   who presents with new onset A. Fib with RVR and MSSA bacteremia, now
   with respiratory failure and ARF.
   .
   # Respiratory failure: Presented with subacute exacerbation with
   decline over past 3-4 weeks.  Has COPD at baseline. Patient was
   electively intubated on [**3-11**] to perform multiple procedures.  Difficulty
   weaning patient from the ventilator initially due to fluid retention
   and baseline COPD. [**Month (only) 11**] be extubatable today as pt doing well on minimal
   pressure support with minimal secretions. Pt more alert. Pt is 17L
   positive over LOS however will not diurese given ARF
   - Try a long SBT to maximize extubation success
   - Hold Tube feeds and place NGT prior to extubation
   - Follow ABGs
   .
   # Fever/bacteremia:  Blood cultures 3/4 MSSA. BCx from [**3-14**] showing GNR.
   Sputum also showing enterobacter cloacae (sensitive to cefepime and
   cipro), likely representing VAP (however mini-BAL negative).
   - Switched abx from nafcillin (received 6 days
 worth, [**Date range (1) 4714**]), to
   Cipro, Cefepime and Flagyl (started yesterday)
   - F/u final BCx and speciation/sensi studies to further tailor abx.
   - F/u ID recs (consider TEE in [**1-7**] weeks and CT torso when feasible)
   - f/u pending microbio studies
   .
   # ARF: Most likely, initially pre-renal then tipped over to ATN. No
   urine eos, thus unlikely AIN due to Nafcillin (has been d/c
d yesterday
   with more microbio data anyhow). Has moderate R-sided hydronephrosis of
   unknown etiology. Also there is a mass lesion on the left previously
   seen on CT done [**2174-2-6**] at BIDN. Cr now somewhat stable in 4+ range.
   - Trend lytes
   - F/u urology re: hydro
recommends checking CT abd without contrast for
   - Renal c/s
 no need for HD at this time, treat hyperphosphatemia with
   Renagel and AlOH for hyperPhos. If renal fxn worsens, consider biopsy
   - Nafcillin already d/c
d (see above)
   - Renally dose meds
   .
   # Septic arthritis / gout: Patient septic arthritis combined with gouty
   arthritis in multiple joints.  Orthopedics took patient to the OR for
   washout on [**3-12**] and all joints tapped have bacteria on gram stain.
   Assistance and recs from ortho and rheum are much appreciated.
   - colchicine off given elevated creatinine
   - Slow taper of steroids started [**3-14**]
   - F/u ortho recs
 ask if further procedures are planned in near future
   .
   # Tachycardia: presented with A. Fib with RVR
 appears to be a new
   diagnosis for this patient.  Likely not a candidate for coumadin given
   recent GI bleed and colon cancer.  Patient has ruled out for an MI. Had
   TEE on [**3-11**] that showed no clot.  Patient converted to NSR post-TEE in
   the setting of hyperkalemia and has remained in NSR after electrolyte
   correction.  Appreciate assistance from EP.
   - now NSR
   - metoprolol being held for low SBP
 will continue amiodarone po
   - notify EP when patient stable and leaving the unit to repeat
   assessment of his device (note they changed his baseline pacing rate to
   60 bpm on [**3-11**]).
   .
   # Abdominal pain: The patient did not have any abdominal pain on
   presentation.  He had mild discomfort on exam yesterday which appears
   to be worse today.  Abdominal ultrasound also noted sludge in the
   gallbladder, no other findings noted.  Pain could be secondary to a
   bilary process, bacteremia (?abdominal abscess), or some other process
   related to his colon cancer.
   - Trend LFTs
 elevated Tbili, other LFTs and lipase nl
   - RUQ U/S showing cholelithiasis, no cholecystitis. Had CT abd
   scheduled as above.
   .
   # Anemia: likely GIB from colon cancer and anemia of chronic dz.
   Patient transfused with 1 unit on am of [**3-13**] and 2 U [**3-14**]. Haptoglobin
   not decreased and LDH not largely elevated, so hemolysis less likely.
   Guaiac pos yesterday
   - per BIDN records, baseline Hct 35-37. Pt presented in [**2174-2-6**] with
   hct drop to 23 then was diagnosed with invasive colon ca.
   - goal Hct >22; judicious RBC transfusions.
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - had a colorectal outpt appt scheduled for today; will defer this
   issue until pt extubated and stabilized.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Continue
   humalog sliding scale q6h for now, given steroids.
   .
   # Glaucoma: continue eye drops
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, ISS. Hold TF today in preparation of
   extubation. Place NGT prior to extubation.
   .
   # Prophylaxis: HSC, pneumoboots, PPI
   .
   # Access: A-line ([**2174-3-11**]), and R IJ central line ([**2174-3-11**])
   .
   # Code: Full
   .
   # Communication: Patient,  Wife
   .
   # Disposition: Requires ICU level of care, but will talk with family
   re: escalation of care in regards to worsening renal failure
   (?hemodialysis) and prolonged intubation, in setting of newly diagnosed
   colon CA.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   Multi Lumen - [**2174-3-11**] 04:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-03-18 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated in the afternoon, serial ABGs showed stable acidosis but
   improving oxygenation post extubation, RT suctioned copious sputum,
   then reintubated this AM for increased work of breathng and worsening
   acidosis
   - PICC line placed
   - ID rec: continue flagyl for BCx [**3-14**]: anaerobic GNRs
   - Lantus PM dose held [**2-7**] NPO
   - Renal recs: increased AlOH, no dialysis at this time with stable Cr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2174-3-15**] 10:00 AM
   Cefipime - [**2174-3-17**] 07:51 PM
   Ciprofloxacin - [**2174-3-17**] 08:05 PM
   Metronidazole - [**2174-3-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-17**] 08:00 PM
   Morphine Sulfate - [**2174-3-17**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-18**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.9
C (96.6
   HR: 132 (80 - 132) bpm
   BP: 125/55(79) {105/34(58) - 137/55(79)} mmHg
   RR: 30 (13 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  1,490 mL
                                                                    593 mL
   PO:
   TF:
                                                                    160 mL
   IVF:
                                                                  1,090 mL
                                                                    593 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    700 mL
   Urine:
                                                                  1,695 mL
                                                                    400 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
                                                                    100 mL
   Balance:
                                                                   -305 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 516 (515 - 654) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 38.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.19/47/201/17/-10
   Ve: 8.1 L/min
   PaO2 / FiO2: 201
   Physical Examination
   General Appearance: Intubated, opens eyes to name, following simple
   commands. + pain everywhere
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, ETT
   Cardiovascular: regular rate and rhythm, normal s1 and s2. 2/6 systolic
   murmur at LUSB
   Respiratory / Chest: Rhonchi throughout lung fields
   Abdominal: Soft, decreased bowel sounds, tender to palpation
   throughout, + bowel sounds
   Extremities: Right: 2+, Left: 2+ pitting edema, 2 toes on R and one on
   L look necrotic, L foot looks mottled with decreased pulses
   Musculoskeletal: bilateral knees stapled, clean and dry. Elbows and
   right wrist in dressing +serous fluid draining
   Labs / Radiology
   90 K/uL
   7.8 g/dL
   90 mg/dL
   4.2 mg/dL
   17 mEq/L
   3.8 mEq/L
   149 mg/dL
   110 mEq/L
   145 mEq/L
   24.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2174-3-16**]  01:35 PM
                             [**2174-3-17**]  03:55 AM
                             [**2174-3-17**]  04:10 AM
                             [**2174-3-17**]  01:25 PM
                             [**2174-3-17**]  06:22 PM
                             [**2174-3-17**]  08:22 PM
                             [**2174-3-17**]  10:01 PM
                             [**2174-3-18**]  02:21 AM
                             [**2174-3-18**]  03:47 AM
                             [**2174-3-18**]  04:17 AM
   WBC
   10.0
   11.0
   Hct
   23.4
   24.4
   Plt
   102
   90
   Cr
   4.3
   4.2
   TCO2
   18
   18
   18
   19
   19
   18
   17
   19
   Glucose
   145
   90
   Other labs: PT / PTT / INR:16.0/56.4/1.4, CK / CKMB /
   Troponin-T:41//0.05, ALT / AST:[**4-1**], Alk Phos / T Bili:62/1.2, Amylase
   / Lipase:44/39, Differential-Neuts:95.9 %, Band:2.0 %, Lymph:2.7 %,
   Mono:1.2 %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Albumin:1.7 g/dL,
   LDH:355 IU/L, Ca++:8.1 mg/dL, Mg++:2.7 mg/dL, PO4:10.9 mg/dL
   Assessment and Plan
   This is a 78 y/o M h/o CAD, CHF, and recently diagnosed colon cancer
   who presents with new onset A. Fib with RVR and MSSA bacteremia, now
   with respiratory failure and ARF.
   .
   # Hemodynamic instability: Initially presented with A. Fib with RVR
   appears to be a new diagnosis for this patient, which was controlled
   with amiodarone.  Likely not a candidate for coumadin given recent GI
   bleed and colon cancer.  Patient has ruled out for an MI. Had TEE on
   [**3-11**] that showed no clot.  Patient converted to NSR post-TEE in the
   setting of hyperkalemia and has remained in NSR after electrolyte
   correction.  Appreciate assistance from EP. Appears to have gone back
   into a-fib in the AM of [**3-18**] in setting of hypoxemia.
   - EKG in AM
   - Fluid boluses  and metoprolol IV x1 to attempt cardioversion, will
   speak with family re: cardioversion/TEE for presumed endocarditis
   - continue amiodarone per NG, consider rebolus as hemodynamics improve
   when patient is in NSR, if family wishes
   - notify EP when patient stable and leaving the unit to repeat
   assessment of his device (note they changed his baseline pacing rate to
   60 bpm on [**3-11**]).
   .
   # Respiratory failure: Presented with subacute exacerbation with
   decline over past 3-4 weeks.  Has COPD at baseline. Patient was
   electively intubated on [**3-11**] to perform multiple procedures.  Difficulty
   weaning patient from the ventilator initially due to fluid retention
   and baseline COPD. Extubated afternoon of [**3-17**]. Pt more alert. Pt is
   17L positive over LOS however will not diurese given ARF.  Tube feeds
   held overnight.
   - re-intubated for worsening acidosis and hypoventilation with fatigue
   overnight
   - Will speak with family regarding long-term ventilator assist as it
   may be increasingly difficult to wean patient in light of recent
   decline.
   .
   # Fever/bacteremia:  Blood cultures 3/4 MSSA in setting of metastatic
   seeding of gouty joints
 likely due to endocarditis. Additional data
   is worsening necrosis of toes and mottling of L foot. BCx from anerobic
   bottle on [**3-14**] showing GNR. Sputum also showing enterobacter cloacae
   (sensitive to cefepime and cipro), likely representing VAP (however
   mini-BAL negative).
   - Switched abx from nafcillin (received 6 days
 worth, [**Date range (1) 4714**]), to
   Cipro, Cefepime and Flagyl (started evening of [**3-15**])
   - F/u final BCx and speciation/sensi studies to further tailor abx.
   - F/u ID recs (consider TEE in [**1-7**] weeks and CT torso when feasible)
   - f/u pending micro studies
   .
   # ARF: Most likely, initially pre-renal then tipped over to ATN. No
   urine eos, thus unlikely AIN due to nafcillin. No hydronephrosis per CT
   scan.  Mass lesion on the left previously seen on CT done [**2174-2-6**] at
   BIDN. Cr now somewhat stable in 4+ range.
   - Trend lytes
   - Renal c/s
 treat hyperphosphatemia with Renagel and increase dose of
   AlOH. If renal fxn worsens, consider biopsy
   - Will consider HD, per family wishes, as situation is now very grave
   with worsening UOP after it had picked up over the past 2 days.
   - Renally dose meds
   .
   # Septic arthritis / gout: Patient septic arthritis combined with gouty
   arthritis in multiple joints.  Orthopedics took patient to the OR for
   washout on [**3-12**] and all joints tapped have bacteria on gram stain.
   Assistance and recs from ortho and rheum are much appreciated.  Ortho
   is watching right wrist and may consider repeat washout in future.
   - colchicine off given elevated creatinine
   - Continue slow taper of steroids started [**3-14**]
   - F/u ortho recs
 No plan for future procedures
   .
   # Abdominal pain: Unable to assess recently in light of intubation and
   sedation. The patient did not have any abdominal pain on presentation.
   He had mild discomfort on exam over the weekend which is stable.
   Abdominal ultrasound also noted sludge in the gallbladder, no other
   findings noted.  Pain could be secondary to a bilary process,
   bacteremia (?abdominal abscess), or some other process related to his
   colon cancer.
   - Trend LFTs
 elevated Tbili, other LFTs and lipase nl
   - RUQ U/S showing cholelithiasis, no cholecystitis.
   .
   # Anemia: likely GIB from colon cancer and anemia of chronic dz.
   Patient transfused with 1 unit on am of [**3-13**] and 2 U [**3-14**]. Haptoglobin
   not decreased and LDH not largely elevated, so hemolysis less likely.
   Guaiac pos yesterday
   - per BIDN records, baseline Hct 35-37.
   - goal Hct >22; judicious RBC transfusions.
   - Also exhibiting platelet drop, which might be multifactorial,
   including HIT, uremia and DIC.
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - had a colorectal outpt appt scheduled for today; will defer this
   issue until pt extubated and stabilized.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns, monitor areas of peripheral
   necrosis
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Continue
   humalog sliding scale q6h for now, given steroids.
   .
   # Glaucoma: continue eye drops
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, ISS. NGT placed. Tube feeds.
   .
   # Prophylaxis: HSC, pneumoboots, PPI
   .
   # Access: A-line ([**2174-3-11**]), and R IJ central line d/c
d [**3-17**] (placed
   [**2174-3-11**]), RUE PICC (placed [**3-17**])
   .
   # Code: DNR.  OK to re-intubate. Okay to turn off AICD if firing
   repetitively.
   .
   # Communication: Patient,  Wife
   .
   # Disposition: Requires ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   PICC Line - [**2174-3-17**] 12:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-03-19 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Loaded w/ IV Amio and reverted from Afib back to sinus rhythm
   - Family Mtg: No further interventions but not officially CMO.
   - On morphine drip with Neo prn to support BP.
   - EP came by and turned off AICD.
   - non-crushable meds d/c'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2174-3-18**] 08:17 PM
   Cefipime - [**2174-3-18**] 08:36 PM
   Metronidazole - [**2174-3-19**] 02:36 AM
   Infusions:
   Morphine Sulfate - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2174-3-18**] 07:35 AM
   Morphine Sulfate - [**2174-3-18**] 02:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-19**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.9
C (96.7
   HR: 64 (61 - 127) bpm
   BP: 111/37(59) {79/29(45) - 133/50(76)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,859 mL
                                                                    633 mL
   PO:
             TF:
                                                                    100 mL
                                                                    176 mL
   IVF:
                                                                  3,629 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                  1,369 mL
                                                                    300 mL
   Urine:
                                                                  1,069 mL
                                                                    300 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  2,490 mL
                                                                    333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 551 (550 - 551) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.22/38/185/19/-11
   Ve: 9.8 L/min
   PaO2 / FiO2: 370
   Physical Examination
   General Appearance: Intubated, opens eyes to name, following simple
   commands. + pain everywhere
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, ETT
   Cardiovascular: regular rate and rhythm, normal s1 and s2. 2/6 systolic
   murmur at LUSB
   Respiratory / Chest: Rhonchi throughout lung fields
   Abdominal: Soft, decreased bowel sounds, tender to palpation
   throughout, + bowel sounds
   Extremities: Right: 2+, Left: 2+ pitting edema, 2 toes on R and one on
   L look necrotic, L foot looks mottled with decreased pulses
   Musculoskeletal: bilateral knees stapled, clean and dry. Elbows and
   right wrist in dressing +serous fluid draining
   Labs / Radiology
   115 K/uL
   7.5 g/dL
   185 mg/dL
   4.2 mg/dL
   19 mEq/L
   3.3 mEq/L
   147 mg/dL
   110 mEq/L
   145 mEq/L
   22.5 %
   13.4 K/uL
        [image002.jpg]
                             [**2174-3-17**]  06:22 PM
                             [**2174-3-17**]  08:22 PM
                             [**2174-3-17**]  10:01 PM
                             [**2174-3-18**]  02:21 AM
                             [**2174-3-18**]  03:47 AM
                             [**2174-3-18**]  04:17 AM
                             [**2174-3-18**]  08:43 AM
                             [**2174-3-18**]  02:12 PM
                             [**2174-3-18**]  02:29 PM
                             [**2174-3-19**]  03:32 AM
   WBC
   11.0
   15.7
   13.4
   Hct
   24.4
   22.8
   22.5
   Plt
   90
   119
   115
   Cr
   4.2
   4.2
   TCO2
   19
   19
   18
   17
   19
   15
   16
   Glucose
   90
   185
   Other labs: PT / PTT / INR:17.2/51.4/1.6, CK / CKMB /
   Troponin-T:41//0.05, ALT / AST:[**4-1**], Alk Phos / T Bili:62/1.2, Amylase
   / Lipase:44/39, Differential-Neuts:95.9 %, Band:2.0 %, Lymph:2.7 %,
   Mono:1.2 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:1.7 g/dL,
   LDH:355 IU/L, Ca++:7.5 mg/dL, Mg++:2.6 mg/dL, PO4:9.6 mg/dL
   U/A: 18 WBC, few bacteria, Tr Leuk
   [**3-18**] sputum 1+ budding yeast, >25 PMNs
   [**3-14**] BCx
 anaerobic GNR, B-lactamase positive
   Assessment and Plan
   This is a 78 y/o M h/o CAD, CHF, and recently diagnosed colon cancer
   who presents with new onset A. Fib with RVR and MSSA bacteremia, now
   with respiratory failure and ARF.
   .
   # Overall goal of care: Pt gravely ill, with bacteremia, hypotension,
   ARF and respiratory failure. After family meeting yesterday, family
   decided to forego further aggressive care or interventions, however not
   CMO. Will continue pressors for BP support and low-dose morphine gtt
   for pain control. Please see Dr. [**Last Name (STitle) 242**]
s note from yesterday for
   details.
   .
   # Hemodynamic instability: Initially presented with A. Fib with RVR
   appears to be a new diagnosis for this patient. Patient converted to
   NSR post-TEE in the setting of hyperkalemia, and remained in NSR after
   electrolyte correction. Then back in A. fib yesterday AM but converted
   to SR with IV amio. Hemodynamically better when in NSR. Likely not a
   candidate for coumadin given recent GI bleed and colon cancer.  Patient
   has ruled out for an MI. Had TEE on [**3-11**] that showed no clot.
   - switch IV amio to PO
   - AICD turned off per family wishes given gravity of pt
s overall
   condition. Appreciate EP help.
   .
   # Respiratory failure: Presented with subacute exacerbation with
   decline over past 3-4 weeks.  Has COPD at baseline. Patient was
   electively intubated on [**3-11**] to perform multiple procedures.  Difficulty
   weaning patient from the ventilator initially due to fluid retention
   and baseline COPD. Extubated afternoon of [**3-17**]. Pt more alert. Pt is
   17L positive over LOS however will not diurese given ARF.  Tube feeds
   held overnight.
   - re-intubated for worsening acidosis and hypoventilation with fatigue
   overnight
   - Will speak with family regarding long-term ventilator assist as it
   may be increasingly difficult to wean patient in light of recent
   decline.
   .
   # Fever/bacteremia:  Blood cultures 3/4 MSSA in setting of metastatic
   seeding of gouty joints
 likely due to endocarditis. Additional data
   is worsening necrosis of toes and mottling of L foot. BCx from anerobic
   bottle on [**3-14**] showing GNR. Sputum also showing enterobacter cloacae
   (sensitive to cefepime and cipro), likely representing VAP (however
   mini-BAL negative).
   - Switched abx from nafcillin (received 6 days
 worth, [**Date range (1) 4714**]), to
   Cipro, Cefepime and Flagyl (started evening of [**3-15**])
   - F/u final BCx and speciation/sensi studies to further tailor abx.
   - F/u ID recs (consider TEE in [**1-7**] weeks and CT torso when feasible)
   - f/u pending micro studies
   .
   # ARF: Most likely, initially pre-renal then tipped over to ATN. No
   urine eos, thus unlikely AIN due to nafcillin. No hydronephrosis per CT
   scan.  Mass lesion on the left previously seen on CT done [**2174-2-6**] at
   BIDN. Cr now somewhat stable in 4+ range.
   - Trend lytes
   - Renal c/s
 treat hyperphosphatemia with Renagel and increase dose of
   AlOH. If renal fxn worsens, consider biopsy
   - Will consider HD, per family wishes, as situation is now very grave
   with worsening UOP after it had picked up over the past 2 days.
   - Renally dose meds
   .
   # Septic arthritis / gout: Patient septic arthritis combined with gouty
   arthritis in multiple joints.  Orthopedics took patient to the OR for
   washout on [**3-12**] and all joints tapped have bacteria on gram stain.
   Assistance and recs from ortho and rheum are much appreciated.  Ortho
   is watching right wrist and may consider repeat washout in future.
   - colchicine off given elevated creatinine
   - Continue slow taper of steroids started [**3-14**]
   - F/u ortho recs
 No plan for future procedures
   .
   # Abdominal pain: Unable to assess recently in light of intubation and
   sedation. The patient did not have any abdominal pain on presentation.
   He had mild discomfort on exam over the weekend which is stable.
   Abdominal ultrasound also noted sludge in the gallbladder, no other
   findings noted.  Pain could be secondary to a bilary process,
   bacteremia (?abdominal abscess), or some other process related to his
   colon cancer.
   - Trend LFTs
 elevated Tbili, other LFTs and lipase nl
   - RUQ U/S showing cholelithiasis, no cholecystitis.
   .
   # Anemia: likely GIB from colon cancer and anemia of chronic dz.
   Patient transfused with 1 unit on am of [**3-13**] and 2 U [**3-14**]. Haptoglobin
   not decreased and LDH not largely elevated, so hemolysis less likely.
   Guaiac pos yesterday
   - per BIDN records, baseline Hct 35-37.
   - goal Hct >22; judicious RBC transfusions.
   - Also exhibiting platelet drop, which might be multifactorial,
   including HIT, uremia and DIC.
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - had a colorectal outpt appt scheduled for today; will defer this
   issue until pt extubated and stabilized.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns, monitor areas of peripheral
   necrosis
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Continue
   humalog sliding scale q6h for now, given steroids.
   .
   # Glaucoma: continue eye drops
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, ISS. NGT placed. Tube feeds.
   .
   # Prophylaxis: HSC, pneumoboots, PPI
   .
   # Access: A-line ([**2174-3-11**]), and R IJ central line d/c
d [**3-17**] (placed
   [**2174-3-11**]), RUE PICC (placed [**3-17**])
   .
   # Code: DNR.  OK to re-intubate. Okay to turn off AICD if firing
   repetitively.
   .
   # Communication: Patient,  Wife
   .
   # Disposition: Requires ICU level of care.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-18**] 11:01 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   PICC Line - [**2174-3-17**] 12:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-03-19 13:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo man with colon CA, AF, old AICD, admitted with multiple septic
   joints, renal failure, respiratory failure, sepsis.  Failed extubation,
   and new cold left foot.  Family meeting yesterday - no further
   aggressive care, family gathering for terminal extubation.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2174-3-18**] 08:17 PM
   Cefipime - [**2174-3-18**] 08:36 PM
   Metronidazole - [**2174-3-19**] 10:09 AM
   Infusions:
   Morphine Sulfate - 3 mg/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2174-3-19**] 10:58 AM
   Other medications:
   fentanyl patch
   insulin SS
   prednisone 5mg
   renajel
   morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-19**] 01:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.1
C (95.2
   HR: 69 (61 - 78) bpm
   BP: 102/27(50) {92/27(49) - 133/50(76)} mmHg
   RR: 17 (16 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,859 mL
                                                                  1,005 mL
   PO:
             TF:
                                                                    100 mL
                                                                    202 mL
   IVF:
                                                                  3,629 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  1,369 mL
                                                                    555 mL
   Urine:
                                                                  1,069 mL
                                                                    555 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  2,490 mL
                                                                    450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 551) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.22/38/185/19/-11
   Ve: 9.8 L/min
   PaO2 / FiO2: 370
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Absent), (Left radial pulse:
   Absent), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, toes on left foot are
   necrotic, less mottled
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   115 K/uL
   185 mg/dL
   4.2 mg/dL
   19 mEq/L
   3.3 mEq/L
   147 mg/dL
   110 mEq/L
   145 mEq/L
   22.5 %
   13.4 K/uL
        [image002.jpg]
                             [**2174-3-17**]  06:22 PM
                             [**2174-3-17**]  08:22 PM
                             [**2174-3-17**]  10:01 PM
                             [**2174-3-18**]  02:21 AM
                             [**2174-3-18**]  03:47 AM
                             [**2174-3-18**]  04:17 AM
                             [**2174-3-18**]  08:43 AM
                             [**2174-3-18**]  02:12 PM
                             [**2174-3-18**]  02:29 PM
                             [**2174-3-19**]  03:32 AM
   WBC
   11.0
   15.7
   13.4
   Hct
   24.4
   22.8
   22.5
   Plt
   90
   119
   115
   Cr
   4.2
   4.2
   TCO2
   19
   19
   18
   17
   19
   15
   16
   Glucose
   90
   185
   Other labs: PT / PTT / INR:17.2/51.4/1.6, CK / CKMB /
   Troponin-T:41//0.05, ALT / AST:[**4-1**], Alk Phos / T Bili:62/1.2, Amylase
   / Lipase:44/39, Differential-Neuts:95.9 %, Band:2.0 %, Lymph:2.7 %,
   Mono:1.2 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:1.7 g/dL,
   LDH:355 IU/L, Ca++:7.5 mg/dL, Mg++:2.6 mg/dL, PO4:9.6 mg/dL
   Microbiology: GNRs in blood from [**3-14**]
   Assessment and Plan
   Respiratory failure:  COPD, GNR VAP, fluid overload.
   Septic shock:  MSSA and then GNR bacteremia:  continue
   cipro/cefepime/flagyl
   Acute renal failure:  creatinine has been stable
   LE necrotic toes/vascular disease.  Foot is slightly less mottled
   AFib:  on amio, can change to PO amio
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-18**] 11:01 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   PICC Line - [**2174-3-17**] 12:57 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: will discuss with family about goals of care
   today
   Code status: DNR
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2174-03-20 05:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-19**] Events:
   - [**3-14**] BCx speciation done: BACTEROIDES FRAGILIS; should be covered by
   flagyl.
   - Family wants to wait until Monday to discuss plan of care with
   attending.
   - TF was stopped intermittently due to high residuals.
   - Continued phenylephrine for BPsupport
   - Went back into A. fib in the evening despite continuing Amio gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2174-3-19**] 08:00 PM
   Ciprofloxacin - [**2174-3-19**] 08:00 PM
   Metronidazole - [**2174-3-20**] 02:00 AM
   Infusions:
   Morphine Sulfate - 3 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2174-3-20**] 02:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-20**] 05:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 72 (58 - 72) bpm
   BP: 113/33(55) {101/27(49) - 168/85(107)} mmHg
   RR: 18 (16 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,917 mL
                                                                    277 mL
   PO:
             TF:
                                                                    423 mL
                                                                     50 mL
   IVF:
                                                                  1,254 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    110 mL
   Urine:
                                                                  1,045 mL
                                                                    110 mL
   NG:
                                                                     70 mL
   Stool:
   Drains:
                                                                     70 mL
   Balance:
                                                                    732 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 551 (550 - 551) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: Intubated, opens eyes to name, following simple
   commands. + pain everywhere
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, ETT
   Cardiovascular: regular rate and rhythm, normal s1 and s2. 2/6 systolic
   murmur at LUSB
   Respiratory / Chest: Rhonchi throughout lung fields
   Abdominal: Soft, decreased bowel sounds, tender to palpation
   throughout, + bowel sounds
   Extremities: Right: 2+, Left: 2+ pitting edema, 2 toes on R and one on
   L look necrotic, L foot looks mottled with decreased pulses, with a
   shallow ulcer on the left dorsal foot
   Musculoskeletal: bilateral knees stapled, clean and dry. Elbows and
   right wrist in dressing +serous fluid draining
   Labs / Radiology
   99 K/uL
   6.6 g/dL
   110 mg/dL
   4.1 mg/dL
   18 mEq/L
   3.1 mEq/L
   142 mg/dL
   115 mEq/L
   147 mEq/L
   20.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2174-3-17**]  08:22 PM
                             [**2174-3-17**]  10:01 PM
                             [**2174-3-18**]  02:21 AM
                             [**2174-3-18**]  03:47 AM
                             [**2174-3-18**]  04:17 AM
                             [**2174-3-18**]  08:43 AM
                             [**2174-3-18**]  02:12 PM
                             [**2174-3-18**]  02:29 PM
                             [**2174-3-19**]  03:32 AM
                             [**2174-3-20**]  03:32 AM
   WBC
   11.0
   15.7
   13.4
   8.1
   Hct
   24.4
   22.8
   22.5
   20.9
   Plt
   90
   119
   115
   99
   Cr
   4.2
   4.2
   4.1
   TCO2
   19
   18
   17
   19
   15
   16
   Glucose
   90
   185
   110
   Other labs: PT / PTT / INR:18.2/49.1/1.7, CK / CKMB /
   Troponin-T:205//0.05, ALT / AST:[**5-24**], Alk Phos / T Bili:54/0.7, Amylase
   / Lipase:44/39, Differential-Neuts:95.9 %, Band:2.0 %, Lymph:2.7 %,
   Mono:1.2 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:1.6 g/dL,
   LDH:249 IU/L, Ca++:6.9 mg/dL, Mg++:2.6 mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
   This is a 78 y/o M h/o CAD, CHF, and recently diagnosed colon cancer
   who presents with new onset A. Fib with RVR and MSSA bacteremia, now
   with respiratory failure and ARF.
   .
   # Overall goal of care: Pt gravely ill, with bacteremia, hypotension,
   ARF and respiratory failure. After family meeting yesterday, family
   decided to forego further aggressive care or interventions, however not
   CMO. Will continue pressors for BP support and low-dose morphine gtt
   for pain control.
   - Will continue to speak with family re: goals of care
   .
   # Hemodynamic instability: Initially presented with A. Fib with RVR
   appears to be a new diagnosis for this patient. Patient converted to
   NSR post-TEE in the setting of hyperkalemia, and remained in NSR after
   electrolyte correction. Then back in A. fib yesterday AM but converted
   to SR with IV amio. Hemodynamically better when in NSR. Likely not a
   candidate for coumadin given recent GI bleed and colon cancer.  Patient
   has ruled out for an MI. Had TEE on [**3-11**] that showed no clot.
   - Appears to be in NSR but many PVCs
   - switch IV amio to PO
   - AICD turned off per family wishes given gravity of pt
s overall
   condition. Appreciate EP help.
   .
   # Respiratory failure: Presented with subacute exacerbation with
   decline over past 3-4 weeks.  Has COPD at baseline. Patient was
   electively intubated on [**3-11**] to perform multiple procedures.  Difficulty
   weaning patient from the ventilator initially due to fluid retention
   and baseline COPD. Extubated afternoon of [**3-17**] but re-intubated [**3-18**] AM
   for increased work of breathing and tachypnea, worsening acidosis. Pt
   is 20L positive over LOS however will not diurese given ARF.  Tube
   feeds held overnight.
   - Titrate up pain meds as patient still in pain uncomfortable on the
   vent
   - Will f/u ABG this AM
   - Continue mech ventilation until further direction from family.
   .
   # Fever/bacteremia:  Blood cultures 3/4 MSSA in setting of metastatic
   seeding of gouty joints
 likely due to endocarditis. Additional data
   is worsening necrosis of toes and mottling of L foot. BCx from anerobic
   bottle on [**3-14**] showing GNR. Sputum also showing enterobacter cloacae
   (sensitive to cefepime and cipro), likely representing VAP (however
   mini-BAL negative).
   - Switched abx from nafcillin (received 6 days
 worth, [**Date range (1) 4714**]), to
   Cipro, Cefepime and Flagyl (started evening of [**3-15**])
   - F/u final BCx and speciation/sensi studies to further tailor abx.
   - F/u ID recs : will likely forego TEE and CT torso
   - f/u pending micro studies
   .
   # ARF: Most likely, initially pre-renal then tipped over to ATN. No
   urine eos, thus unlikely AIN due to nafcillin. No hydronephrosis per CT
   scan.  Mass lesion on the left previously seen on CT done [**2174-2-6**] at
   BIDN. Cr now somewhat stable in 4+ range.
   - Trend lytes
   - Renal c/s
 treat hyperphosphatemia with Renagel and increase dose of
   AlOH. No hemodialysis or biopsy as pt does not want aggressive
   interventions.
   - Renally dose meds
   .
   # Septic arthritis / gout: Patient septic arthritis combined with gouty
   arthritis in multiple joints.  Orthopedics took patient to the OR for
   washout on [**3-12**] and all joints tapped have bacteria on gram stain.
   Assistance and recs from ortho and rheum are much appreciated.
   - family does not wish any further procedures
   - colchicine off given elevated creatinine
   - Continue slow taper of steroids started [**3-14**]
   - Appreciate ortho recs
   .
   # Abdominal pain: Stable. Unable to assess recently in light of
   intubation and sedation. The patient did not have any abdominal pain on
   presentation.  He had mild discomfort on exam over the weekend which is
   stable.  Abdominal ultrasound also noted sludge in the gallbladder, no
   other findings noted.  Pain could be secondary to a bilary process,
   bacteremia (?abdominal abscess), or some other process related to his
   colon cancer.
   - Trend LFTs
 elevated Tbili, other LFTs and lipase nl
   - RUQ U/S showing cholelithiasis, no cholecystitis.
   .
   # Anemia: likely GIB from colon cancer and anemia of chronic dz.
   Patient transfused with 1 unit on am of [**3-13**] and 2 U [**3-14**]. Haptoglobin
   not decreased and LDH not largely elevated, so hemolysis less likely.
   Guaiac pos [**3-17**]
   - per BIDN records, baseline Hct 35-37.
   - goal Hct >22; judicious RBC transfusions.
   - Also exhibiting platelet drop, which might be multifactorial,
   including HIT and low-grade DIC.
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - had a colorectal outpt appt scheduled for [**3-16**]; will defer this issue
   until pt extubated and stabilized.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns, monitor areas of peripheral
   necrosis
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Continue
   humalog sliding scale q6h for now, given steroids.
   .
   # Glaucoma: continue eye drops
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, ISS. Tube feeds via NGT.
   .
   # Prophylaxis: No HSC pneumoboots, PPI
   .
   # Access: A-line ([**2174-3-11**]), and R IJ central line d/c
d [**3-17**] (placed
   [**2174-3-11**]), RUE PICC (placed [**3-17**])
   .
   # Code: DNR/I. Overall care plan discussion on-going with family.
   .
   # Communication: Patient,  Wife
   .
   # Disposition: Requires ICU level of care.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-20**] 04:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   PICC Line - [**2174-3-17**] 12:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-03-20 10:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo man with MSSA bacteremia and B fragilis bacteremia, septic
   joints, respiratory failure, septic shock.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2174-3-19**] 08:00 PM
   Ciprofloxacin - [**2174-3-19**] 08:00 PM
   Metronidazole - [**2174-3-20**] 09:49 AM
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2174-3-20**] 07:30 AM
   Other medications:
   fentanyl patch
   SSI
   prednisone 2.5mg
   chlorhex
   MVI
   amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-20**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.6
C (96
   HR: 68 (58 - 74) bpm
   BP: 114/33(57) {101/27(48) - 168/85(107)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,917 mL
                                                                    721 mL
   PO:
             TF:
                                                                    423 mL
                                                                     99 mL
   IVF:
                                                                  1,254 mL
                                                                    462 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    380 mL
   Urine:
                                                                  1,045 mL
                                                                    350 mL
   NG:
                                                                     70 mL
   Stool:
   Drains:
                                                                     70 mL
                                                                     30 mL
   Balance:
                                                                    732 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 551 (550 - 551) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, right large MTP joint red and swollen
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.6 g/dL
   99 K/uL
   110 mg/dL
   4.1 mg/dL
   18 mEq/L
   3.1 mEq/L
   142 mg/dL
   115 mEq/L
   147 mEq/L
   20.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2174-3-17**]  08:22 PM
                             [**2174-3-17**]  10:01 PM
                             [**2174-3-18**]  02:21 AM
                             [**2174-3-18**]  03:47 AM
                             [**2174-3-18**]  04:17 AM
                             [**2174-3-18**]  08:43 AM
                             [**2174-3-18**]  02:12 PM
                             [**2174-3-18**]  02:29 PM
                             [**2174-3-19**]  03:32 AM
                             [**2174-3-20**]  03:32 AM
   WBC
   11.0
   15.7
   13.4
   8.1
   Hct
   24.4
   22.8
   22.5
   20.9
   Plt
   90
   119
   115
   99
   Cr
   4.2
   4.2
   4.1
   TCO2
   19
   18
   17
   19
   15
   16
   Glucose
   90
   185
   110
   Other labs: PT / PTT / INR:18.2/49.1/1.7, CK / CKMB /
   Troponin-T:205//0.05, ALT / AST:[**5-24**], Alk Phos / T Bili:54/0.7, Amylase
   / Lipase:44/39, Differential-Neuts:93.4 %, Band:0.0 %, Lymph:4.7 %,
   Mono:1.4 %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Albumin:1.6 g/dL,
   LDH:249 IU/L, Ca++:6.9 mg/dL, Mg++:2.6 mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
   Pain control:  Better controlled today on increased morphine drip.
   Acute Renal failure:  Making urine, and creatinine is stable.  Not a HD
   candidate.
   Respiratory faiure:  Requiring too much sedation to keep comfortable
   and to wean, so opting for comfort.
   B. fragilis bacteremia:  less likely a VAP organism although possible.
   Would need abd CT to w/u, but given that waiting for family to make him
   [**Last Name (LF) 303**], [**First Name3 (LF) 116**] hold off.
   hypernatremia:  Free water
   anemia:  hold off on transfusion currently
   thrombocytopenia: likely due to sepsis +/- DIC
   grangrenous toes and fingers:  due to vascular disease, ?emboli,
   pressor requirement.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-20**] 04:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   PICC Line - [**2174-3-17**] 12:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2174-03-21 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Titrated morphine to 4mg/hr
   - Sputum [**3-18**]  1+ YEAST, SPARSE GROWTH - S. AUREUS COAG +, RARE GROWTH
   GRAM NEGATIVE RODS
   - Free water flushes increased to 100cc q4hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2174-3-20**] 07:34 PM
   Ciprofloxacin - [**2174-3-20**] 08:00 PM
   Metronidazole - [**2174-3-21**] 02:32 AM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2174-3-21**] 05:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-21**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 62 (59 - 75) bpm
   BP: 129/56(77) {102/28(51) - 181/76(113)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,014 mL
                                                                    444 mL
   PO:
             TF:
                                                                    218 mL
                                                                     21 mL
   IVF:
                                                                  1,467 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    115 mL
   Urine:
                                                                    875 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
                                                                     80 mL
   Balance:
                                                                  1,059 mL
                                                                    329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 551 (550 - 551) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Intubated, not responsive
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, ETT
   Cardiovascular: regular rate and rhythm, normal s1 and s2. 2/6 systolic
   murmur at LUSB
   Respiratory / Chest: Rhonchi throughout lung fields
   Abdominal: Soft, decreased bowel sounds,
   Extremities: Right: 2+, Left: 2+ pitting edema, 2 toes on R and one on
   L look necrotic, L foot looks mottled with decreased pulses, with a
   shallow ulcer on the left dorsal foot
   Musculoskeletal: bilateral knees stapled, clean and dry. Elbows and
   right wrist in dressing +serous fluid draining
   Labs / Radiology
   99 K/uL
   6.6 g/dL
   110 mg/dL
   4.1 mg/dL
   18 mEq/L
   3.1 mEq/L
   142 mg/dL
   115 mEq/L
   147 mEq/L
   20.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2174-3-17**]  08:22 PM
                             [**2174-3-17**]  10:01 PM
                             [**2174-3-18**]  02:21 AM
                             [**2174-3-18**]  03:47 AM
                             [**2174-3-18**]  04:17 AM
                             [**2174-3-18**]  08:43 AM
                             [**2174-3-18**]  02:12 PM
                             [**2174-3-18**]  02:29 PM
                             [**2174-3-19**]  03:32 AM
                             [**2174-3-20**]  03:32 AM
   WBC
   11.0
   15.7
   13.4
   8.1
   Hct
   24.4
   22.8
   22.5
   20.9
   Plt
   90
   119
   115
   99
   Cr
   4.2
   4.2
   4.1
   TCO2
   19
   18
   17
   19
   15
   16
   Glucose
   90
   185
   110
   Other labs: PT / PTT / INR:18.2/49.1/1.7, CK / CKMB /
   Troponin-T:205//0.05, ALT / AST:[**5-24**], Alk Phos / T Bili:54/0.7, Amylase
   / Lipase:44/39, Differential-Neuts:93.4 %, Band:0.0 %, Lymph:4.7 %,
   Mono:1.4 %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Albumin:1.6 g/dL,
   LDH:249 IU/L, Ca++:6.9 mg/dL, Mg++:2.6 mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
   This is a 78 y/o M h/o CAD, CHF, and recently diagnosed colon cancer
   who presents with new onset A. Fib with RVR and MSSA bacteremia, now
   with respiratory failure and ARF.
   .
   # Overall goal of care: Pt gravely ill, with bacteremia, hypotension,
   ARF and respiratory failure. After family meeting yesterday, family
   decided to forego further aggressive care or interventions, however not
   CMO. Will continue pressors for BP support and low-dose morphine gtt
   for pain control.
   - Will continue to speak with family re: goals of care
   .
   # Hemodynamic instability: Initially presented with A. Fib with RVR
   appears to be a new diagnosis for this patient. Patient converted to
   NSR post-TEE in the setting of hyperkalemia, and remained in NSR after
   electrolyte correction. Then back in A. fib yesterday AM but converted
   to SR with IV amio. Hemodynamically better when in NSR. Likely not a
   candidate for coumadin given recent GI bleed and colon cancer.  Patient
   has ruled out for an MI. Had TEE on [**3-11**] that showed no clot.
   - Appears to be in NSR but many PVCs
   - switch IV amio to PO
   - AICD turned off per family wishes given gravity of pt
s overall
   condition. Appreciate EP help.
   .
   # Respiratory failure: Presented with subacute exacerbation with
   decline over past 3-4 weeks.  Has COPD at baseline. Patient was
   electively intubated on [**3-11**] to perform multiple procedures.  Difficulty
   weaning patient from the ventilator initially due to fluid retention
   and baseline COPD. Extubated afternoon of [**3-17**] but re-intubated [**3-18**] AM
   for increased work of breathing and tachypnea, worsening acidosis. Pt
   is 20L positive over LOS however will not diurese given ARF.  Tube
   feeds held overnight.
   - Titrate up pain meds as patient still in pain uncomfortable on the
   vent
   - Will f/u ABG this AM
   - Continue mech ventilation until further direction from family.
   .
   # Fever/bacteremia:  Blood cultures 3/4 MSSA in setting of metastatic
   seeding of gouty joints
 likely due to endocarditis. Additional data
   is worsening necrosis of toes and mottling of L foot. BCx from anerobic
   bottle on [**3-14**] showing GNR. Sputum also showing enterobacter cloacae
   (sensitive to cefepime and cipro), likely representing VAP (however
   mini-BAL negative).
   - Switched abx from nafcillin (received 6 days
 worth, [**Date range (1) 4714**]), to
   Cipro, Cefepime and Flagyl (started evening of [**3-15**])
   - F/u final BCx and speciation/sensi studies to further tailor abx.
   - F/u ID recs : will likely forego TEE and CT torso
   - f/u pending micro studies
   .
   # ARF: Most likely, initially pre-renal then tipped over to ATN. No
   urine eos, thus unlikely AIN due to nafcillin. No hydronephrosis per CT
   scan.  Mass lesion on the left previously seen on CT done [**2174-2-6**] at
   BIDN. Cr now somewhat stable in 4+ range.
   - Trend lytes
   - Renal c/s
 treat hyperphosphatemia with Renagel and increase dose of
   AlOH. No hemodialysis or biopsy as pt does not want aggressive
   interventions.
   - Renally dose meds
   .
   # Septic arthritis / gout: Patient septic arthritis combined with gouty
   arthritis in multiple joints.  Orthopedics took patient to the OR for
   washout on [**3-12**] and all joints tapped have bacteria on gram stain.
   Assistance and recs from ortho and rheum are much appreciated.
   - family does not wish any further procedures
   - colchicine off given elevated creatinine
   - Continue slow taper of steroids started [**3-14**]
   - Appreciate ortho recs
   .
   # Abdominal pain: Stable. Unable to assess recently in light of
   intubation and sedation. The patient did not have any abdominal pain on
   presentation.  He had mild discomfort on exam over the weekend which is
   stable.  Abdominal ultrasound also noted sludge in the gallbladder, no
   other findings noted.  Pain could be secondary to a bilary process,
   bacteremia (?abdominal abscess), or some other process related to his
   colon cancer.
   - Trend LFTs
 elevated Tbili, other LFTs and lipase nl
   - RUQ U/S showing cholelithiasis, no cholecystitis.
   .
   # Anemia: likely GIB from colon cancer and anemia of chronic dz.
   Patient transfused with 1 unit on am of [**3-13**] and 2 U [**3-14**]. Haptoglobin
   not decreased and LDH not largely elevated, so hemolysis less likely.
   Guaiac pos [**3-17**]
   - per BIDN records, baseline Hct 35-37.
   - goal Hct >22; judicious RBC transfusions.
   - Also exhibiting platelet drop, which might be multifactorial,
   including HIT and low-grade DIC.
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - had a colorectal outpt appt scheduled for [**3-16**]; will defer this issue
   until pt extubated and stabilized.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns, monitor areas of peripheral
   necrosis
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Continue
   humalog sliding scale q6h for now, given steroids.
   .
   # Glaucoma: continue eye drops
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, ISS. Tube feeds via NGT.
   .
   # Prophylaxis: No HSC pneumoboots, PPI
   .
   # Access: A-line ([**2174-3-11**]), and R IJ central line d/c
d [**3-17**] (placed
   [**2174-3-11**]), RUE PICC (placed [**3-17**])
   .
   # Code: DNR/I. Overall care plan discussion on-going with family.
   .
   # Communication: Patient,  Wife
   .
   # Disposition: Requires ICU level of care.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2174-3-20**] 04:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   PICC Line - [**2174-3-17**] 12:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-03-21 10:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2174-3-20**] 07:34 PM
   Ciprofloxacin - [**2174-3-20**] 08:00 PM
   Metronidazole - [**2174-3-21**] 09:38 AM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2174-3-21**] 05:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-21**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 72 (59 - 78) bpm
   BP: 104/36(57) {87/29(47) - 181/87(113)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 84.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,015 mL
                                                                    866 mL
   PO:
             TF:
                                                                    218 mL
                                                                     60 mL
   IVF:
                                                                  1,468 mL
                                                                    626 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    305 mL
   Urine:
                                                                    875 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
                                                                     80 mL
   Balance:
                                                                  1,060 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 551) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 9.8 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.3 g/dL
   95 K/uL
   116 mg/dL
   4.2 mg/dL
   19 mEq/L
   3.5 mEq/L
   139 mg/dL
   114 mEq/L
   145 mEq/L
   19.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2174-3-17**]  10:01 PM
                             [**2174-3-18**]  02:21 AM
                             [**2174-3-18**]  03:47 AM
                             [**2174-3-18**]  04:17 AM
                             [**2174-3-18**]  08:43 AM
                             [**2174-3-18**]  02:12 PM
                             [**2174-3-18**]  02:29 PM
                             [**2174-3-19**]  03:32 AM
                             [**2174-3-20**]  03:32 AM
                             [**2174-3-21**]  05:57 AM
   WBC
   11.0
   15.7
   13.4
   8.1
   7.4
   Hct
   24.4
   22.8
   22.5
   20.9
   19.8
   Plt
   90
   119
   115
   99
   95
   Cr
   4.2
   4.2
   4.1
   4.2
   TCO2
   18
   17
   19
   15
   16
   Glucose
   90
   185
   110
   116
   Other labs: PT / PTT / INR:18.5/49.3/1.7, CK / CKMB /
   Troponin-T:205//0.05, ALT / AST:[**5-24**], Alk Phos / T Bili:54/0.7, Amylase
   / Lipase:44/39, Differential-Neuts:93.4 %, Band:0.0 %, Lymph:4.7 %,
   Mono:1.4 %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Albumin:1.6 g/dL,
   LDH:249 IU/L, Ca++:7.1 mg/dL, Mg++:2.5 mg/dL, PO4:9.1 mg/dL
   Imaging: CXR-Poor quality film--ETT at 7cm above carina
   Assessment and Plan
   78 yo male admit with history of colon CA, new A-fib and now with MSSA
   bacteremia and multiple joints seeded with intervention x2 for knee
   joint infection.  He now has persistent ventilatory failure and
   persistent renal failure and evidence of impaired peripheral perfusion.
   1)Respiratory Failure-Patient with continued A/C support
   -Advance ETT by 3 cm today
   -Continue A/C support for now
   2)Sepsis/MSSA Bactermia-
   -Has had multiple drainage procedures
   -Had initial Rx with Nafcillin but GNRs complicating course
   -ABX currently expanded to Cefepime/Cipro/Flagyl
   3)Atrial Fibrillation-
   -AICD off
   -Will continue to support with current medications
   -
   3)Renal Failure-Concern for pre-renal + ATN + possible AIN
   -Ca++ continued
   -Minimize fluid excess
   -Dialysis not being pursued based upon minimal chance of any
   expectation for return of functional status consistent with patients
   minimum goals for quality of life
   4)Colon Ca-
   -Likely contributing to current findings of anemia
   -Has persistent low HCT at this time
   -Will need f/u HCT today
   ICU Care
   Nutrition: NGT in place
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-3-11**] 12:37 PM
   PICC Line - [**2174-3-17**] 12:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 45

2174-03-22 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-21**] Events:
   - ETT advanced
   - phosphate binders increased
   - family meeting, cont. supportive care as more family visiting on
   tuesday; likely CMO on wednesday but will wait for family to officially
   state so
   - 1 unit PRBC transfusion
   - SBP briefly dropped to 70; neo turned back on.
   - lost A-line
   ----------------------------
   ANTIBIOTICS
   Vancomycin [[**3-10**]]
   Zosyn [[**3-10**]]
   Nafcillin [[**Date range (1) 4714**]] - d/c'd [**2-7**] AIN
   Cefepime [[**3-15**]- (MSSA bacteremia, joints and Enterobacter in sputum)
   (Course -> weeks)
   Ciproflox [[**3-15**]-  (? d/c [**3-21**])
   metronidazole [[**3-15**]-  (B frag blood) (course ~2 weeks)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2174-3-21**] 08:00 PM
   Ciprofloxacin - [**2174-3-21**] 09:30 PM
   Metronidazole - [**2174-3-22**] 04:00 AM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Phenylephrine - 2.2 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2174-3-21**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-22**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.8
C (96.5
   HR: 62 (58 - 83) bpm
   BP: 108/31(49) {108/31(49) - 115/66(77)} mmHg
   RR: 18 (17 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 84.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,989 mL
                                                                    680 mL
   PO:
             TF:
                                                                    139 mL
   IVF:
                                                                  2,109 mL
                                                                    620 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    921 mL
                                                                    757 mL
   Urine:
                                                                    741 mL
                                                                    207 mL
   NG:
                                                                    180 mL
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  2,068 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 551 (550 - 551) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.24/39/149/16/-10
   Ve: 11.8 L/min
   PaO2 / FiO2: 373
   Physical Examination
   General Appearance: Intubated, in pain with movement
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, ETT
   Cardiovascular: regular rate and rhythm, normal s1 and s2. 2/6 systolic
   murmur at LUSB
   Respiratory / Chest: Rhonchi throughout lung fields
   Abdominal: Soft, decreased bowel sounds,
   Extremities: Right: 2+, Left: 2+ pitting edema, 2 toes on R and one on
   L look necrotic, L foot looks mottled with decreased pulses, with a
   shallow ulcer on the left dorsal foot
   Musculoskeletal: bilateral knees stapled, clean and dry. Elbows and
   right wrist in dressing +serous fluid draining
   Labs / Radiology
   125 K/uL
   7.9 g/dL
   143 mg/dL
   4.4 mg/dL
   16 mEq/L
   3.4 mEq/L
   141 mg/dL
   111 mEq/L
   142 mEq/L
   24.2 %
   14.6 K/uL
        [image002.jpg]
                             [**2174-3-18**]  03:47 AM
                             [**2174-3-18**]  04:17 AM
                             [**2174-3-18**]  08:43 AM
                             [**2174-3-18**]  02:12 PM
                             [**2174-3-18**]  02:29 PM
                             [**2174-3-19**]  03:32 AM
                             [**2174-3-20**]  03:32 AM
                             [**2174-3-21**]  05:57 AM
                             [**2174-3-22**]  03:40 AM
                             [**2174-3-22**]  05:01 AM
   WBC
   11.0
   15.7
   13.4
   8.1
   7.4
   14.6
   Hct
   24.4
   22.8
   22.5
   20.9
   19.8
   24.2
   Plt
   90
   119
   115
   99
   95
   125
   Cr
   4.2
   4.2
   4.1
   4.2
   4.4
   TCO2
   19
   15
   16
   18
   Glucose
   90
   185
   110
   116
   143
   Other labs: PT / PTT / INR:19.6/53.8/1.8, CK / CKMB /
   Troponin-T:205//0.05, ALT / AST:[**5-24**], Alk Phos / T Bili:54/0.7, Amylase
   / Lipase:44/39, Differential-Neuts:93.4 %, Band:0.0 %, Lymph:4.7 %,
   Mono:1.4 %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Albumin:1.6 g/dL,
   LDH:249 IU/L, Ca++:7.0 mg/dL, Mg++:2.5 mg/dL, PO4:8.4 mg/dL
   Assessment and Plan
   This is a 78 y/o M h/o CAD, CHF, and recently diagnosed colon cancer
   who presents with new onset A. Fib with RVR and MSSA bacteremia, now
   with respiratory failure and ARF.
   .
   # Overall goal of care: Pt gravely ill, with bacteremia, hypotension,
   ARF and respiratory failure.  Continuing pressors for BP support and
   low-dose morphine gtt for pain control.
   - Will meet with family again today re: goals of care
   .
   # Hemodynamic instability: Initially presented with A. Fib with RVR
   appears to be a new diagnosis for this patient. Patient converted to
   NSR post-TEE in the setting of hyperkalemia, and remained in NSR after
   electrolyte correction. Then back in A. fib yesterday AM but converted
   to SR with IV amio. Hemodynamically better when in NSR. Likely not a
   candidate for coumadin given recent GI bleed and colon cancer.  Patient
   has ruled out for an MI. Had TEE on [**3-11**] that showed no clot.
   - Appears to be in NSR but many PVCs
   - switch IV amio to PO
   - AICD turned off per family wishes on [**3-18**] given gravity of pt
   overall condition. Appreciate EP help.
   .
   # Respiratory failure: Presented with subacute exacerbation with
   decline over past 3-4 weeks.  Has COPD at baseline. Patient was
   electively intubated on [**3-11**] to perform multiple procedures.  Difficulty
   weaning patient from the ventilator initially due to fluid retention
   and baseline COPD. Extubated afternoon of [**3-17**] but re-intubated [**3-18**] AM
   for increased work of breathing and tachypnea, worsening acidosis. Pt
   is over 20L positive over LOS however will not diurese given ARF.
   - Continue mech ventilation until further direction from family.
   .
   # Fever/bacteremia:  Blood cultures 3/4 MSSA in setting of metastatic
   seeding of gouty joints
 likely due to endocarditis. Additional data
   is worsening necrosis of toes and mottling of L foot. BCx from anerobic
   bottle on [**3-14**] showing GNR. Sputum also showing enterobacter cloacae
   (sensitive to cefepime and cipro), likely representing VAP (however
   mini-BAL negative).
   - Switched abx from nafcillin (received 6 days
 worth, [**Date range (1) 4714**]), to
   Cipro, Cefepime and Flagyl (started evening of [**3-15**]) for
   - MSSA bacteremia, Enterobacter in sputum, and B. fragilis in blood.
   - ID signed-off : will likely forego TEE and CT torso as family moving
   toward CMO
   - f/u pending micro studies
   .
   # ARF: Most likely, initially pre-renal then tipped over to ATN. No
   urine eos, thus unlikely AIN due to nafcillin. No hydronephrosis per CT
   scan.  Mass lesion on the left previously seen on CT done [**2174-2-6**] at
   BIDN. Cr now somewhat stable in 4+ range.
   - Trend lytes
   - Treating hyperphosphatemia with CaCO3 and lanthanum, will titrate up
   doses.  No hemodialysis or biopsy as pt does not want aggressive
   interventions.
   - Renally dose meds
   .
   # Septic arthritis / gout: Patient septic arthritis combined with gouty
   arthritis in multiple joints.  Orthopedics took patient to the OR for
   washout on [**3-12**] and all joints tapped have bacteria on gram stain.
   Assistance and recs from ortho and rheum are much appreciated.
   - family does not wish any further procedures
   - colchicine off given elevated creatinine
   - Steroid taper started [**3-14**], now off
   - Appreciate ortho recs
   .
   # Abdominal pain: Stable. Unable to assess recently in light of
   intubation and sedation. The patient did not have any abdominal pain on
   presentation.  He had mild discomfort on exam over the last weekend
   which is stable.  Abdominal ultrasound also noted sludge in the
   gallbladder, no other findings noted.  Pain could be secondary to a
   bilary process, bacteremia (?abdominal abscess), or some other process
   related to his colon cancer.
   - Trend LFTs
 elevated Tbili, other LFTs and lipase nl
   - RUQ U/S showing cholelithiasis, no cholecystitis.
   .
   # Anemia: likely GIB from colon cancer and anemia of chronic dz.
   Patient transfused with 1 unit on am of [**3-13**] and 2 U [**3-14**]. Haptoglobin
   not decreased and LDH not largely elevated, so hemolysis less likely.
   Guaiac pos [**3-17**]
   - per BIDN records, baseline Hct 35-37.
   - goal Hct >22; judicious RBC transfusions.
   - Also exhibiting platelet drop, which might be multifactorial,
   including HIT and low-grade DIC.
   - hct down to 19 this morning, will discuss goals of care with family
   today and decide whether to transfuse based on that.
   .
   # Colon Ca: No known mets but with extensive lymphadenopathy in chest
   on last CT scan.
   - had a colorectal outpt appt scheduled for [**3-16**]; will defer this issue
   until pt extubated and stabilized.
   .
   # Pressure Ulcers:
   - local wound care, frequent turns, monitor areas of peripheral
   necrosis
   .
   # Hyperglycemia: no h/o diabetes by chart.  HbA1c 6.7.  Steroid taper
   finished, will stop insulin sliding scale.
   .
   # Glaucoma: continue eye drops
   - confirm pilocarpine dosing from outpatient setting.
   .
   # FEN: replete electrolytes, tube feeds via NGT.
   .
   # Prophylaxis: No HSC, pneumoboots, PPI
   .
   # Access: A-line ([**2174-3-11**]), and R IJ central line d/c
d [**3-17**] (placed
   [**2174-3-11**]), RUE PICC (placed [**3-17**])
   .
   # Code: DNR. Overall care plan discussion on-going with family.
   .
   # Communication: Patient,  Wife
   .
   # Disposition: Requires ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2174-3-17**] 12:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-03-22 10:39:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2174-3-22**] 05:00 AM
   Pressor requirement continues despite trial of weaning to off.
   Pt given one unit PRBC with appropriate response
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2174-3-21**] 08:00 PM
   Ciprofloxacin - [**2174-3-21**] 09:30 PM
   Metronidazole - [**2174-3-22**] 04:00 AM
   Infusions:
   Phenylephrine - 2.2 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2174-3-21**] 05:00 PM
   Lansoprazole (Prevacid) - [**2174-3-22**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-22**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.8
C (96.5
   HR: 66 (58 - 83) bpm
   BP: 119/41(58) {98/21(42) - 130/66(77)} mmHg
   RR: 19 (17 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 97 kg (admission): 84.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,989 mL
                                                                  1,053 mL
   PO:
             TF:
                                                                    139 mL
   IVF:
                                                                  2,109 mL
                                                                    913 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    921 mL
                                                                    997 mL
   Urine:
                                                                    741 mL
                                                                    297 mL
   NG:
                                                                    180 mL
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                  2,068 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 551) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.24/39/149/16/-10
   Ve: 10.7 L/min
   PaO2 / FiO2: 373
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Persistent necrotic foci in toes without
   change--increased mottled areas
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: No(t) Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   125 K/uL
   143 mg/dL
   4.4 mg/dL
   16 mEq/L
   3.4 mEq/L
   141 mg/dL
   111 mEq/L
   142 mEq/L
   24.2 %
   14.6 K/uL
        [image002.jpg]
                             [**2174-3-18**]  03:47 AM
                             [**2174-3-18**]  04:17 AM
                             [**2174-3-18**]  08:43 AM
                             [**2174-3-18**]  02:12 PM
                             [**2174-3-18**]  02:29 PM
                             [**2174-3-19**]  03:32 AM
                             [**2174-3-20**]  03:32 AM
                             [**2174-3-21**]  05:57 AM
                             [**2174-3-22**]  03:40 AM
                             [**2174-3-22**]  05:01 AM
   WBC
   11.0
   15.7
   13.4
   8.1
   7.4
   14.6
   Hct
   24.4
   22.8
   22.5
   20.9
   19.8
   24.2
   Plt
   90
   119
   115
   99
   95
   125
   Cr
   4.2
   4.2
   4.1
   4.2
   4.4
   TCO2
   19
   15
   16
   18
   Glucose
   90
   185
   110
   116
   143
   Other labs: PT / PTT / INR:19.6/53.8/1.8, CK / CKMB /
   Troponin-T:205//0.05, ALT / AST:[**5-24**], Alk Phos / T Bili:54/0.7, Amylase
   / Lipase:44/39, Differential-Neuts:93.3 %, Band:0.0 %, Lymph:4.3 %,
   Mono:2.2 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:1.6 g/dL,
   LDH:249 IU/L, Ca++:7.0 mg/dL, Mg++:2.5 mg/dL, PO4:8.4 mg/dL
   Imaging: CXR-ETT still at 6-7 cm above carina
   Assessment and Plan
   78 y male with diffuse bactermia and sepsis with multiple metastatic
   foci of infection and now with persistent compromise of ventilation,
   renal function, hypotension and mental status.
   Sepsis-
   -Cefepime/Cipro/Flagyl to continue for bacterial infection
   -Will attempt to wean neo as possible but with persistent requirements
   for pressors and rising WBC count is concerning for recurrent
   infection.
   -Fungal infection is reasonable to consider as possible source and will
   look to cultures
   -If neo requirement persistent will consider Levophed as alternative.
   RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-
   -Will continue with CMV support at current levels.
   Atrial Fibrillation-
   -Will continue with Amiodarone Rx
   ACUTE RENAL FAILURE-
   -Persistent impairment in clearance
   -Continue to support
   VOMITING/NAUSEA-
   -Will look to KUB and LFT
s for eval of possible GB involvement and
   bowel obstruction
   -Will pursue fungal cultures given high risk at this time.
   -For further significant clinical decline will start empiric Rx with
   Fluconazole
 ICU Care-Patient
s family in for full discussion.  Persistence of
   hypotensive insult in the setting of prolonged antibiotic therapy would
   suggest incapacity to clear infection and with persistence of impaired
   perfusion both impaired renal function and impaired perfusion of
   extremities is suggested.  This, in the setting of persistent
   ventilatory failure is a picture of persistent multi-organ system
   failure.  This does not include the issue of recent diagnosis of colon
   cancer.  Given his baseline goals of return to independent function and
   his previously expressed wishes of not being maintained on machines
   without expectation for return to baseline independent function he
   would not want continued aggressive medical care and will move in
   concert with the family
s expressed wishes on his part will consider
   move to CMO status when all have been able to visit with patient.
   ICU Care
   Nutrition: NPO
patient has significant residuals and vomiting with risk
   for aspiration
will hold po feeds and maintain low intermittent
   suction.
   Glycemic Control:
   Lines:
   PICC Line - [**2174-3-17**] 12:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes